### PR TITLE
feat: nondegenerate critical points are isolated

### PR DESCRIPTION
**Pull request by brettkoonce**
This PR opens Lane M ("Morse homology", Stage 0) of the analytic Heegaard Floer roadmap by giving the first Morse-theoretic definitions and proving the finiteness that the Morse chain complex rests on. A critical point of a real-valued function on a normed space is nondegenerate when the second derivative `fderiv ℝ (fderiv ℝ f) x`, read as a map from `E` into its dual, is invertible; `TauCeti.IsNondegenerateCriticalPoint.eventually_fderiv_ne_zero` shows such a point is isolated, and `TauCeti.HasNondegenerateCriticalPointsOn.finite_setOf_fderiv_eq_zero` deduces that a function whose critical points on a compact set are all nondegenerate has only finitely many of them there. That statement is exactly what makes the Morse complex of a compact manifold finitely generated, so it is the first structural input of the lane's milestone "Morse functions, stable/unstable manifolds, Morse–Smale transversality, `∂² = 0`, Morse homology ≅ singular homology".

Nothing Morse-theoretic exists in Mathlib (only `RingTheory/Polynomial/Morse.lean`, an unrelated file), so the definitions are new. The Banach-space phrasing of nondegeneracy follows Palais and Schwarz, both now cited in the module's References block; Audin–Damian covers the finite-dimensional side.

The isolation argument is the inverse function theorem applied to `fderiv ℝ f`, which vanishes at the point and has invertible derivative there; the compact case then combines the resulting discreteness with the fact that continuity of `fderiv ℝ f` on `K` makes the critical locus a closed, hence compact, subset of `K`. Further results round out the API. `TauCeti.IsNondegenerateCriticalPoint.separatingLeft` and `TauCeti.isNondegenerateCriticalPoint_iff_separatingLeft` identify the definition, in finite dimensions, with the classical requirement that the Hessian be left-separating as a bilinear form — Mathlib's `LinearMap.SeparatingLeft` applied to `ContinuousLinearMap.toBilinForm` of the Hessian — so the invertibility condition is the expected one rather than an artefact of the Banach-space phrasing (in infinite dimensions the invertibility is genuinely stronger; it is nondegeneracy in the Banach-space sense, and is unrelated to the Palais–Smale condition, which is a separate global compactness hypothesis). `TauCeti.IsNondegenerateCriticalPoint.congr_of_eventuallyEq` records that the notion depends only on the germ of `f`; `TauCeti.fderiv_fderiv_comp_apply_of_fderiv_eq_zero` records that where the differential of the outer function vanishes the first-order term of the chain rule drops out, so the second derivative pulls back as a bilinear form; and `TauCeti.isNondegenerateCriticalPoint_comp_iff` (with its one-directional form `TauCeti.IsNondegenerateCriticalPoint.comp`) concludes that nondegeneracy is unchanged by a change of coordinates with invertible differential — together the facts that will let the notion be read off in any chart when the lane moves to manifolds. Finally `TauCeti.ContinuousLinearMap.isNondegenerateCriticalPoint_apply_self` and its symmetric-form corollary `..._of_flip_eq_self` check the definition against its local model: a continuous bilinear form `B` with invertible polarization makes `z ↦ B z z` a function with a nondegenerate critical point at the origin, which rules out vacuity.

What remains for the milestone after this PR: the Morse lemma (the local normal form at a nondegenerate critical point) and the Morse index, then the gradient-flow half of the lane — stable/unstable manifolds, Morse–Smale transversality via finite-dimensional Sard, broken-trajectory compactness and gluing, `∂² = 0`, and the comparison with Mathlib's singular homology.

New files: `TauCeti/Analysis/Calculus/Morse.lean`, plus the two generic calculus modules it imports — `TauCeti/Analysis/Calculus/SecondDerivative.lean` (the second derivative as the derivative of `fderiv 𝕜 g`, and the second-order chain rule at a critical value, both over a nontrivially normed field) and `TauCeti/Analysis/Calculus/Bilinear.lean` (the smoothness and derivatives of the diagonal `z ↦ B z z` of a continuous bilinear map), which are independent of critical points and so do not belong behind the Morse theory. No Mathlib source was vendored; the second derivative is the same object Mathlib packages as `bilinearIteratedFDerivTwo`, and its symmetry is Mathlib's `ContDiffAt.isSymmSndFDerivAt`, so neither is restated here.

Roadmap: HeegaardFloer

🤖 Prepared with Claude Code

### CODE REVIEW

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (CBirkbeck) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ correctness — now passing on `ed17d29`.

Comment (CBirkbeck) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ reuse — now passing on `ed17d29`.

Comment (CBirkbeck) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ api-design — now passing on `ed17d29`.

Comment (CBirkbeck) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ generality — now passing on `ed17d29`.

Comment (CBirkbeck) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ naming — now passing on `ed17d29`.

Comment (CBirkbeck) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ documentation — now passing on `ed17d29`.

**Comment by CBirkbeck** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The definitions and statements faithfully capture strong nondegeneracy, isolation, compact-locus finiteness, coordinate invariance, and the quadratic model; no semantic defect was found. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The new declarations add genuinely reusable Morse and second-derivative APIs without directly duplicating located Mathlib or TauCeti results. The opaque predicate requires its public `_iff` bridge, and the Fredholm level-set results have materially different hypotheses. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR coherently begins HeegaardFloer Lane M’s explicitly named Morse-functions stage. The generic calculus and bilinear-form lemmas are direct prerequisites for the nondegeneracy, isolation, finiteness, and coordinate-invariance results, while the ParametricFDeriv edits simply adopt the new shared lemma. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module credits the central finite- and infinite-dimensional Morse-theory sources and the roadmap; no uncredited copied or closely adapted formal source is evident. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical public surface is minimal and sufficiently characterized, with appropriate automation annotations and no compatibility-only, overexposed, or extensionally defective API. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The generic calculus declarations use arbitrary nontrivially normed fields and codomains with minimal regularity, while the Morse-specific API is naturally specialized to real-valued functions. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The new declarations are in topic-appropriate modules, and the current import graph contains no evidently redundant or unnecessarily broad imports. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced declarations use standard Mathlib terminology, accurately describe their conclusions, and follow adjacent namespace conventions. The `setOfPred` names match current Mathlib naming for predicate-defined sets, and no notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | All new substantive modules and public declarations have accurate, useful documentation matching their statements and hypotheses. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise, appropriately factored through reusable derivative lemmas, and avoid undocumented definitional-equality manipulation or brittle rewrite chains. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...ed17d29f77867751ec1b2ae7c5d6f9f96299aa4e) at head `ed17d29`. rubrics @ [`a66b04d`](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics). Review spend: $11.66.</sub>

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (brettkoonce) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ reuse — now passing on `c660c7e`.

Comment (brettkoonce) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ api-design — now passing on `c660c7e`.

Comment (brettkoonce) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 generality — request_changes  `claude/claude-opus-5`

Prior findings are addressed at this head. One assumption remains stronger than needed: the second-order chain rule in the generic calculus module is fixed at `RCLike` although its proof only needs a nontrivially normed field.

- `TauCeti/Analysis/Calculus/SecondDerivative.lean:54` — `fderiv_fderiv_comp_apply_of_fderiv_eq_zero` is stated over `[RCLike 𝕜]` (shared `variable` line at 41), but nothing in it needs strict differentiability: `hf1`/`hφ1` only use `HasFDerivAt`, obtained via the RCLike-only helper `ContDiffAt.hasStrictFDerivAt_fderiv` purely as a convenience. Mathlib states every chain-rule/`fderiv_comp` fact over `NontriviallyNormedField`, so a generic second-order chain rule sits at the wrong level here. _Fix:_ Give this theorem its own field variable `[NontriviallyNormedField 𝕜]` (keep `RCLike` on `ContDiffAt.hasStrictFDerivAt_fderiv`, which genuinely needs it) and replace lines 58-61 with `((hf.fderiv_right (m := 1) le_rfl).differentiableAt le_rfl).hasFDerivAt` and likewise for `φ` — the idiom already used at TauCeti/Analysis/Calculus/ParametricFDeriv.lean:130.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 126s · 11 in / 9.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a209c165a6751de328da2af4ff3381b9c8c6f568...c660c7e1c507009a6ba62e8186e7ff67954d4e2f) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/generality.md)</sub>

Comment (brettkoonce) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ naming — now passing on `c660c7e`.

Comment (brettkoonce) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 documentation — request_changes  `claude/claude-opus-5`

Documentation is otherwise complete and accurate: module docstrings on all three new files, every public declaration and structure field documented, verified Mathlib and roadmap cross-references, and the prior rounds' overclaim and proof-narration issues are fixed. One docstring headline misuses "critical value" for what is a critical point.

- `TauCeti/Analysis/Calculus/SecondDerivative.lean:51` — Headline "**The second derivative at a critical value is a bilinear form pullback.**" mislabels the point: `φ b` is a critical *point* of `f` (`fderiv 𝕜 f (φ b) = 0`); the critical value would be `f (φ b)`. The file's own module docstring (lines 20-24, "at a point where the differential of the outer function vanishes"), the lemma name `..._of_fderiv_eq_zero`, and `Morse.lean:221-224` ("At a critical point the first-order term of the chain rule drops out") all use the correct term. _Fix:_ Change to "**The second derivative at a critical point is a bilinear form pullback.**"

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 200s · 16 in / 15.5k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a209c165a6751de328da2af4ff3381b9c8c6f568...c660c7e1c507009a6ba62e8186e7ff67954d4e2f) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/documentation.md)</sub>

Comment (brettkoonce) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 proof-quality — request_changes  `claude/claude-opus-5`

Proofs are short, comment-bearing and rest on real simp lemmas rather than defeq accidents. One general linear-algebra fact — injective + equal finrank ⇒ `IsInvertible` for a continuous linear map into the dual — is proved inline inside a Morse-theoretic iff and should be a standalone lemma.

- `TauCeti/Analysis/Calculus/Morse.lean:163` — The `←` direction of `isNondegenerateCriticalPoint_iff_separatingLeft` inlines a reusable, entirely non-Morse fact: for a continuous linear map into the dual of a finite-dimensional space, injectivity implies `IsInvertible`. Lines 163-170 mix the dual-finrank computation (`Subspace.dual_finrank_eq` transported along `LinearMap.toContinuousLinearMap`), `LinearMap.linearEquivOfInjective`, and `LinearEquiv.toContinuousLinearEquiv`, with the resulting coercion round-trip discharged by `by ext v; simp`; `hinj` also silently identifies `⇑(L : E →ₗ[ℝ] _)` with `⇑L` across the `ContinuousLinearMap.coe_coe` wrapper. The reason the Morse statement holds is buried in wrapper juggling, and the fact is needed again for the Morse lemma/index work the PR description schedules next. _Fix:_ Extract e.g. `TauCeti.ContinuousLinearMap.isInvertible_of_injective : [FiniteDimensional ℝ E] → Function.Injective L → (L : E →L[ℝ] E →L[ℝ] ℝ).IsInvertible` (or the `IsInvertible ↔ Injective` iff) into `TauCeti/Topology/Algebra/Module/BilinearForm.lean`, next to `separatingLeft_toBilinForm_iff_injective`, and reduce the Morse proof to `(separatingLeft_toBilinForm_iff_injective _).1 hnd |> isInvertible_of_injective`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 340s · 35 in / 24.6k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...c8be7d697afd8451be6f6d7e2a4c5cdf5157d33a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/proof-quality.md)</sub>

**Comment by brettkoonce** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ♻️ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/correctness.md) | stale (re-run pending) | `claude/claude-opus-5` | Every new statement checks out: nondegeneracy is genuine invertibility of the Hessian as a map into the dual (confirmed against Mathlib's `IsInvertible`), the finite-dimensional `SeparatingLeft` characterization is correct, and the isolation, discreteness, finiteness, second-order chain rule, change-of-coordinates and quadratic-model statements all say what they claim with no content moved into hypotheses. The predicate is both consumed (isolation/finiteness) and witnessed by a satisfiable model, and the rename to `HasNondegenerateCriticalPointsOn` closes the earlier Morse-function mis-formalization. |
| ♻️ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/reuse.md) | stale (re-run pending) | `claude/claude-opus-5` | The prior finding is fixed: the isolation lemma now calls Mathlib's HasFDerivAt.eventually_ne and the spurious [CompleteSpace E] is gone from all three statements. Re-running the duplication searches over Mathlib and TauCeti turned up no existing declaration that any new one restates, and the proofs reuse the located API (hasStrictFDerivAt_of_bilinear, Subspace.dual_finrank_eq, ContDiffAt.fderiv_right, IsCompact.finite). |
| ♻️ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/scope.md) | stale (re-run pending) | `claude/claude-opus-5` | The PR opens Lane M (Stage 0) of the HeegaardFloer roadmap, whose first listed item is Morse functions; STATUS.md records Lane M as untouched and startable immediately, so this is genuinely new on-target material, not periphery. It is a single topic: one new file containing a definition and its immediate API, with no other file touched. |
| ♻️ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/attribution.md) | stale (re-run pending) | `claude/claude-opus-5` | The file credits its central informal source (Audin–Damian, Chapter 1 — the text the roadmap names for Lane M) in both the References section and the PR description, links the roadmap lane, and points at the related Mathlib packaging (bilinearIteratedFDerivTwo, iteratedFDeriv_two_apply, ContDiffAt.isSymmSndFDerivAt, all verified to exist) rather than restating it. No vendored or closely adapted material is uncredited. |
| ♻️ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/api-design.md) | stale (re-run pending) | `claude/claude-opus-5` | The prior finding is fixed: the renamed `HasNondegenerateCriticalPointsOn` now has the `Iff.rfl` intro/elim bridge `hasNondegenerateCriticalPointsOn_iff`, so its exported theorems are constructible and applicable downstream without an exposed body. The rest of the surface is minimal, characteristically complete (separatingLeft, finite-dim iff, germ invariance, two-way chart transport, non-vacuity model), correctly `@[simp]`-annotated in Bilinear.lean, and carries no compatibility artifacts. |
| ⚠️ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/generality.md) | error | `claude/claude-opus-5` |  |
| ♻️ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/placement.md) | stale (re-run pending) | `claude/claude-opus-5` | The single new file sits in the canonical home for Morse-theoretic calculus material, with no sibling Morse*.lean requiring a directory split and no relocation or compatibility module involved. All seven imports are specific and used by declarations in the file. |
| ♻️ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/naming.md) | stale (re-run pending) | `claude/claude-opus-5` | All three naming defects from the prior round are fixed at this head: the second-order chain rule now names its critical-point hypothesis, the radical lemma is `separatingLeft` after `LinearMap.SeparatingLeft`, and the `quadratic` token is replaced by Mathlib's `_apply_self` idiom in the `ContinuousLinearMap` namespace. Remaining names describe their conclusions in standard terminology and no notation is introduced. |
| ⚠️ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/documentation.md) | error | `claude/claude-opus-5` |  |
| ⚠️ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/proof-quality.md) | error | `claude/claude-opus-5` |  |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/930eb6023efef6824f74ae0bd25765afe06bedf7...735519401f7c95fe4b120ba49ae99e9565a25375) at head `7355194`. rubrics @ [`a66b04d`](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics). Review spend: $24.17.</sub>

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (kim-em) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ correctness — now passing on `dc47acc`.

**Comment by kim-em** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ♻️ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/correctness.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The current definitions and theorems faithfully formalize strong nondegeneracy, isolation, compact-locus finiteness, coordinate pullback, and the quadratic model. The earlier regularity defect is resolved by the bundled `ContDiffAt ℝ 2` field. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | No material duplication found. The new declarations package genuinely reused calculus and linear-algebra APIs, and the opaque predicate’s characterization is necessary for downstream introduction and elimination. |
| ♻️ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/scope.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new material directly opens Lane M’s first named step, Morse functions, and the roadmap explicitly says Lane M can start immediately. The definitions, isolation/finiteness results, coordinate invariance, and quadratic model form one coherent foundational topic. |
| ♻️ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/attribution.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The module credits its central informal source, the Heegaard Floer roadmap, and the relevant Mathlib second-derivative declarations; no unattributed vendoring or identifiable adaptation is evident. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The public surface is complete and appropriately scoped. The contested `hasNondegenerateCriticalPointsOn_iff` should remain unannotated: making its definitional unfolding a simp normal form would erase the predicate shape required by its dot-notation API. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations use natural assumptions and abstraction levels: generic calculus results are stated over nontrivially normed fields, while the Morse-specific API is appropriately specialized to real-valued functions. |
| ♻️ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/placement.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The generic derivative and bilinear lemmas now live in dedicated calculus modules, while the Morse-specific declarations remain in their natural module; no evidently wrong imports remain. |
| 🟡 | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/naming.md) | changes requested | `codex/gpt-5.6-sol` | One newly introduced theorem uses Mathlib’s deprecated `finite_setOf_` naming form instead of the current canonical `finite_setOfPred_` form. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | All new substantive files have useful module docstrings, and the public declarations are documented accurately in terms of their statements and purpose. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise, factored around reusable derivative lemmas, and avoid undocumented `change`/`show`, brittle rewrite chains, and accidental definitional-equality dependence. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...b075606e24aa5d0265b2cc23632bc10c604e99d3) at head `b075606`. rubrics @ [`a66b04d`](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics). Review spend: $5.24.</sub>

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Contesting this finding.

**The round-1 correctness ask was implemented.** `IsNondegenerateCriticalPoint` (Morse.lean:111) is now a structure whose first field is `contDiffAt : ContDiffAt ℝ 2 f x` (commit `e4aea40b`). So `IsMorseOn f s` already delivers honest twice continuous differentiability at *every critical point in `s`*, and the "Mathlib totalizes `fderiv` to zero" hole is closed: a function that is not `C²` at a point where `fderiv ℝ f` is (vacuously) `0` is not accepted. What this round asks for on top of that is regularity at *regular* points, and that ask is (1) not implementable in the form suggested, (2) in direct conflict with the `generality` rubric on this same PR, and (3) not needed for faithfulness of any statement in the file.

**1. `ContDiffOn ℝ 2 f s` does not supply what the proofs need.** `ContDiffOn` is a `ContDiffWithinAt`/`fderivWithin` statement; it upgrades to `ContDiffAt` only where `s` is a neighbourhood of the point:

```
-- Mathlib/Analysis/Calculus/ContDiff/Defs.lean:963
theorem ContDiffOn.contDiffAt (h : ContDiffOn 𝕜 n f s) (hx : s ∈ 𝓝 x) : ContDiffAt 𝕜 n f x
```

The headline consumer is `IsMorseOn.finite_setOf_fderiv_eq_zero` on a **compact** `K`, and `K` is not a neighbourhood of its boundary points. So `ContDiffOn ℝ 2 f K` gives no second-order data at a critical point of `∂K`, while the isolation argument needs the genuine `HasFDerivAt (fderiv ℝ f) (fderiv ℝ (fderiv ℝ f) x) x`, i.e. the honest `ContDiffAt`. Bundling `ContDiffOn` would thus not strengthen the definition where the results use it; it would add a hypothesis the results cannot consume. The only usable global form is `∀ x ∈ s, ContDiffAt ℝ 2 f x` — which is exactly what the `generality` rubric required to be removed.

**2. Direct conflict with the `generality` finding** (same judge `codex/gpt-5.6-sol`, [comment 3753988118](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3753988118)), which requires the opposite of this finding:

> `TauCeti/Analysis/Calculus/Morse.lean:149` — `isDiscrete_setOf_fderiv_eq_zero` assumes `ContDiffAt ℝ 2 f x` at every `x ∈ s`, although the proof uses it only where `fderiv ℝ f x = 0`. *Fix:* Weaken `hf` to `∀ x ∈ s, fderiv ℝ f x = 0 → ContDiffAt ℝ 2 f x` and pass the criticality hypothesis at the sole use.

> `TauCeti/Analysis/Calculus/Morse.lean:160` — `finite_setOf_fderiv_eq_zero` requires twice continuous differentiability everywhere on `K`; finiteness only needs continuity of `fderiv` on `K` to close the critical locus and second-order regularity at critical points to isolate them. *Fix:* State separate assumptions such as `ContinuousOn (fderiv ℝ f) K` and `∀ x ∈ K, fderiv ℝ f x = 0 → ContDiffAt ℝ 2 f x`.

The current head implements precisely that fix: the second-order regularity rides on `IsNondegenerateCriticalPoint`, i.e. is demanded exactly at critical points, and `ContinuousOn (fderiv ℝ f) K` is carried separately as the hypothesis that closes the critical locus (Morse.lean:187-189). Putting global smoothness back into `IsMorseOn` re-imposes on both theorems the hypothesis that finding requires to be absent. The two cannot both be satisfied.

**3. No statement in the file is unfaithful, and nothing is lost by the weaker predicate.** The extra functions admitted are exactly those with **no** critical points in `s` and regularity below `C²`; for them `{x ∈ s | fderiv ℝ f x = 0}` is empty, so `isDiscrete_setOf_fderiv_eq_zero` and `finite_setOf_fderiv_eq_zero` are true (trivially) rather than false. So the weakening strictly enlarges the applicability of the theorems and makes none of them vacuous in a way that hides content — all the content lives at the critical points, where full `C²` regularity plus Hessian invertibility is required. In the other direction a classically Morse function is immediately `IsMorseOn` via `isMorseOn_iff` (Morse.lean:127), so no user is inconvenienced.

The deviation from the textbook standing assumption is deliberate and documented at both the definition site (Morse.lean:119-121: "No regularity is asked for away from the critical points.") and in the module docstring (Morse.lean:28-33). The other correctness judge on this PR (`claude/claude-opus-5`, round 1) reached the same conclusion about these definitions: "Definitions match the intended objects … and the isolation, discreteness, finiteness, chain-rule and change-of-coordinates statements are faithful with no content displaced into hypotheses."

If Lane M later wants the textbook bundle (globally smooth, all critical points nondegenerate), the right home for it is the manifold-level file where smoothness is a standing hypothesis; introducing it here would add material beyond this PR's target while weakening the two results the PR exists to prove.

Verified at head `f6c4624`: `lake build` → "Build completed successfully (7400 jobs)."; `lake exe axioms` → "audited 36882 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound]."

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: This is already fixed at the current head `f6c4624` (commit `e4aea40b`, "bundle twice continuous differentiability into nondegeneracy"), which post-dates the `3cb1a8c` this round reviewed.

`IsNondegenerateCriticalPoint` is now a structure carrying the regularity as a field (Morse.lean:111-117):

```lean
structure IsNondegenerateCriticalPoint (f : E → ℝ) (x : E) : Prop where
  contDiffAt : ContDiffAt ℝ 2 f x
  fderiv_eq_zero : fderiv ℝ f x = 0
  isInvertible : (fderiv ℝ (fderiv ℝ f) x).IsInvertible
```

so the "Mathlib totalizes `fderiv` to zero at nondifferentiable points" hole is closed: a point where `f` is not `C²` is no longer accepted as nondegenerate, and `IsMorseOn` (Morse.lean:122) inherits that at each of its critical points. The characterization `isNondegenerateCriticalPoint_iff` (Morse.lean:147) now carries `ContDiffAt ℝ 2 f x` as a conjunct as well, and the per-theorem `hf : ∀ x ∈ s, ContDiffAt ℝ 2 f x` hypotheses were removed as redundant.

A separate round on the current head asked additionally for global smoothness *away from* the critical points in `IsMorseOn`; that one is contested in [this thread](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3755258214), because it conflicts with the `generality` rubric's finding on the same file and `ContDiffOn ℝ 2 f K` supplies no `ContDiffAt` at boundary points of a compact `K` (`ContDiffOn.contDiffAt` needs `s ∈ 𝓝 x`, Mathlib/Analysis/Calculus/ContDiff/Defs.lean:963).

Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `correctness` —** re-reviewed on `f6c4624`; the finding stands — `IsMorseOn` still mis-formalizes a Morse function by imposing regularity only at critical points.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755258969.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Fixed at `dc47acc` by taking the fix you suggested: the name `IsMorseOn` is now reserved, and the weak predicate is renamed `HasNondegenerateCriticalPointsOn` (with `hasNondegenerateCriticalPointsOn_iff`, `.mono`, `.isDiscrete_setOf_fderiv_eq_zero`, `.finite_setOf_fderiv_eq_zero` renamed to match). No declaration in the file now claims to formalize a Morse function, so nothing mis-formalizes one.

This also resolves the conflict raised in my earlier reply: the two theorems keep hypotheses exactly as strong as their proofs use (regularity demanded at critical points via `IsNondegenerateCriticalPoint`, plus `ContinuousOn (fderiv ℝ f) K` for finiteness), which is what the `generality` finding ([3753988118](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3753988118)) required, while the name that carries the textbook standing hypothesis is no longer used for the weak notion. The module docstring records that `IsMorseOn` is left free for the globally regular notion, which belongs with the manifold-level material where smoothness is standing anyway (Morse.lean:36-40, 128-131).

Verified at `dc47acc`: `lake build` → "Build completed successfully (7400 jobs)."; `lake exe axioms` → "audited 36882 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound]."

Comment (kim-em) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ reuse — now passing on `b075606`.

Comment (kim-em) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ api-design — now passing on `b075606`.

Comment (kim-em) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ placement — now passing on `f917faf`.

Comment (kim-em) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `correctness` —** re-reviewed on `dc47acc`; this clears the finding ✅ — approved on `dc47acc`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755374484.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Contesting both bullets: each asks for the exact reversal of a finding from an earlier round of this same review, and both of those rubrics are green **on this commit** partly because of the declaration this finding wants deleted. I cannot satisfy both, so I am showing the contradiction rather than letting one re-fire.

**1. `ContDiffAt.hasStrictFDerivAt_fderiv` — contradicts `proof-quality` round 1.**

This finding says the lemma "merely renames a direct composition" and asks me to inline `(h.fderiv_right (m := 1) (by norm_num)).hasStrictFDerivAt one_ne_zero` "at lines 184, 227, and 229". Those are precisely the three sites that `proof-quality` round 1 ([3754263845](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3754263845), `claude/claude-opus-5`) ordered me to stop inlining, quoting it in full:

> `(ContDiffAt.fderiv_right (m := 1) _ (by norm_num)).hasStrictFDerivAt/differentiableAt one_ne_zero` is repeated three times (lines 130-132, 181-182, 183-184) — the file's central reusable fact is inlined as a brittle incantation each time. _Fix:_ Add one lemma, stated for a general target, e.g. `theorem ContDiffAt.hasStrictFDerivAt_fderiv {g : E → G} (h : ContDiffAt ℝ 2 g x) : HasStrictFDerivAt (fderiv ℝ g) (fderiv ℝ (fderiv ℝ g) x) x := (h.fderiv_right (m := 1) (by norm_num)).hasStrictFDerivAt one_ne_zero`, and use it (with `.hasFDerivAt`) at all three sites; the rest of Lane M will need it too.

The lemma in the file is that fix, verbatim down to the name and the proof term. `proof-quality` then approved round 2 with "The proofs are concise and structured around **reusable derivative lemmas**", i.e. it is green *because* of this lemma; inlining it back would re-fire the round-1 finding immediately. So one of the two must be wrong, and this one is: the lemma is not a duplicate of Mathlib API — `grep -rn "hasStrictFDerivAt_fderiv\|hasFDerivAt_fderiv\b" Mathlib/` over the pinned Mathlib returns nothing, so no Mathlib declaration states that `fderiv 𝕜 g` is strictly differentiable with derivative `fderiv 𝕜 (fderiv 𝕜 g) x`. What the finding calls a rename is the naming of a fact used three times here and needed throughout the rest of Lane M, which is the ordinary reason to have a lemma.

Separately, this round's `placement` finding ([3755431508](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3755431508)) asks me to *move* this same declaration to an earlier calculus module — which presupposes it exists. I have done that at `16101c3f`: it is now `TauCeti/Analysis/Calculus/SecondDerivative.lean`, with the four `ContinuousLinearMap.*_apply_self` lemmas in `TauCeti/Analysis/Calculus/Bilinear.lean`.

**2. `hasNondegenerateCriticalPointsOn_iff` — contradicts `api-design` round 1 *and* `api-design` on this very commit.**

This finding says to delete the `Iff.rfl` characterization and "unfold `HasNondegenerateCriticalPointsOn` where an explicit expansion is needed". Downstream that is not possible: under the Lean module system a `def` in a plain `public section` exports its *signature* only, so its body is invisible outside this module and cannot be unfolded there. That is exactly what `api-design` round 1 ([3754263530](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3754263530), `claude/claude-opus-5`) blocked on, for the predicate under its former name:

> `IsMorseOn` is a `def` under a plain `public section` with no `@[expose]`, and the file provides no intro/elim/`_iff` lemma for it. Its body is therefore invisible downstream, so a consumer can neither construct an `IsMorseOn f s` (the hypothesis of `finite_setOf_fderiv_eq_zero` [...]) nor apply one as a function the way the in-file proofs do [...]. Both exported theorems are unusable outside this module. _Fix:_ Keep the body unexposed and add the characteristic API next to the definition: `theorem isMorseOn_iff : IsMorseOn f s ↔ ∀ x ∈ s, fderiv ℝ f x = 0 → IsNondegenerateCriticalPoint f x := Iff.rfl` (intro + elim in one, provable only here) [...]. Do not fix this by adding `@[expose]`.

"Provable only here" is the point: the theorem is not redundant public API but the *only* way the body escapes the module, which is why `Iff.rfl` is its proof rather than evidence of duplication. Deleting it makes `HasNondegenerateCriticalPointsOn.finite_setOf_fderiv_eq_zero` — the headline result of the PR — unusable by any later Lane M module, since nothing outside this file could build its hypothesis.

The conflict is also intra-round, not only with round 1: `api-design` on this same commit `dc47acc` ([3755431439](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3755431439), same judge and model as this finding) requests changes *because that theorem lacks `@[simp]`* —

> `hasNondegenerateCriticalPointsOn_iff` is the definitional characterization of `HasNondegenerateCriticalPointsOn` but lacks `@[simp]`, so simplification cannot unfold the predicate through its intended public API. _Fix:_ Add `@[simp]` to `hasNondegenerateCriticalPointsOn_iff`.

A theorem cannot simultaneously be deleted and carry `@[simp]`. I have taken the `api-design` side, since it is the one that keeps the exported theorems usable: at `16101c3f` the lemma is kept and marked `@[simp]`. `scripts/lint-env.sh` (the CI environment-linter gate) reports `LINT-ENV: PASS — no new violations`, so the new annotation is `simpNF`-clean.

Verified at `16101c3f`: `lake build` → "Build completed successfully (7402 jobs)."; `lake exe axioms` → "audited 36883 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound]."; `lake exe module-system` → "all 1791 TauCeti module(s) opt into the module system."

**Comment by sqrt-of-2** [comment]
🔍 Review in progress — `agy` reviewing `1330037192c9`.

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `correctness` —** re-reviewed on `1330037`; this clears the finding ✅ — approved on `1330037`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755374484.</sub>

Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `1330037`; this clears the finding ✅ — approved on `1330037`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755615401.</sub>

Comment (kim-em) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `f917faf`; this clears the finding ✅ — approved on `f917faf`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755615401.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Contesting this finding: it asks for the exact reversal of an `api-design` finding on this same PR that the current head already satisfies, and the empirical evidence is on the other side.

**1. Direct contradiction with `api-design` round 1 (`claude/claude-opus-5`, [3757052059](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3757052059)).** That finding blocked on the annotation this one asks me to add back, quoted in full:

> `TauCeti/Analysis/Calculus/Morse.lean:116` — `hasNondegenerateCriticalPointsOn_iff` is `Iff.rfl` and marked `@[simp]`, so the simp-normal form of `HasNondegenerateCriticalPointsOn f s` is its own unfolding. After `simp` (or `simp at h`) the lemmas stated about the definition — `HasNondegenerateCriticalPointsOn.mono` (line 123), `.isDiscrete_setOf_fderiv_eq_zero` (line 170), `.finite_setOf_fderiv_eq_zero` (line 182) — no longer apply syntactically, so the abstraction the def introduces is destroyed for every consumer. _Fix:_ Drop `@[simp]`; keep the lemma as the plain `_iff`/`_def` restatement.

I had added `@[simp]` in response to the earlier round of *this* thread; commit `f077086` removed it to satisfy that finding. A theorem cannot both carry `@[simp]` and not carry it, so one of the two is wrong, and it is this one.

**2. The removal is right on the merits — the breakage is reproducible.** With the pinned Mathlib, simulating the requested `@[simp]` by putting the hypothesis and goal into the unfolded normal form makes the module's own API inapplicable:

```lean
example (h : HasNondegenerateCriticalPointsOn f t) (hst : s ⊆ t) :
    HasNondegenerateCriticalPointsOn f s := by
  simp only [hasNondegenerateCriticalPointsOn_iff] at h ⊢
  exact h.mono hst

example (hK : IsCompact s) (hc : ContinuousOn (fderiv ℝ f) s)
    (h : HasNondegenerateCriticalPointsOn f s) : {x ∈ s | fderiv ℝ f x = 0}.Finite := by
  simp only [hasNondegenerateCriticalPointsOn_iff] at h
  exact h.finite_setOf_fderiv_eq_zero hK hc
```

`lake env lean` on that file:

```
error(lean.invalidField): Invalid field `mono`: The environment does not contain `Function.mono`,
so it is not possible to project the field `mono` from an expression h of type
  ?m ∈ t → fderiv ℝ f ?m = 0 → IsNondegenerateCriticalPoint f ?m
error(lean.invalidField): Invalid field `finite_setOf_fderiv_eq_zero`: The environment does not
contain `Function.finite_setOf_fderiv_eq_zero`, ...
```

Both examples compile with no errors when the unfolding step is removed. So `@[simp]` would not "let simplification use the intended public elimination API"; it would replace the predicate by a bare `∀`-statement about which the module states nothing, which is the opposite of the elimination API's purpose. The lemma is fully usable as a public eliminator without the attribute — as `hasNondegenerateCriticalPointsOn_iff.1/.2`, or in an explicit `rw`/`simp only` when a user does want the unfolded form.

**3. Mathlib does not annotate the analogous lemmas.** `Set.mapsTo_iff_subset_preimage : MapsTo f s t ↔ s ⊆ f ⁻¹' t := Iff.rfl` (`Mathlib/Data/Set/Function.lean:118`) carries no `@[simp]`, and the two predicates of exactly this `∀ x ∈ s, …` shape with a developed dot-notation API — `ContinuousOn` and `DifferentiableOn` — have no definitional-unfolding `simp` lemma at all (`continuousOn_iff`, `Mathlib/Topology/ContinuousOn.lean:96`, is unannotated). Definitional unfolding of a predicate that has an API is deliberately kept out of the simp set there for the reason reproduced above.

I have kept the lemma without `@[simp]` and, at `cf6818d9`, recorded this rationale in its docstring so the point is visible in the source. Verified at that commit: `lake build` → "Build completed successfully (7472 jobs)."; `lake exe axioms` → "audited 37945 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound]."; `scripts/lint-env.sh` → "LINT-ENV: PASS — no new violations".

[the remark this answers is not in the document]
Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: All three bullets are addressed at the current head `cf6818d9` (the fixes landed in `f077086`, which post-dates the `16101c3` this round reviewed):

- **`@[simp]` on `hasNondegenerateCriticalPointsOn_iff`** — dropped; the lemma is the plain `Iff.rfl` restatement (`TauCeti/Analysis/Calculus/Morse.lean:137`). Its docstring now records why the attribute is deliberately absent, since an earlier `api-design` round asked for the reverse; I have contested that thread ([3755431439](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3755431439)) with your reasoning and a reproduction of the breakage rather than re-adding it.
- **Congruence lemma** — `IsNondegenerateCriticalPoint.congr_of_eventuallyEq : f =ᶠ[𝓝 x] g → IsNondegenerateCriticalPoint f x → IsNondegenerateCriticalPoint g x` (Morse.lean:178), proved from `ContDiffAt.congr_of_eventuallyEq` and `Filter.EventuallyEq.fderiv_eq`; and the transport lemma is now two-way, `isNondegenerateCriticalPoint_comp_iff` (Morse.lean:231), with `IsNondegenerateCriticalPoint.comp` (Morse.lean:261) derived from it.
- **Smoothness in the bilinear-diagonal module** — `ContinuousLinearMap.contDiff_apply_self : ContDiff 𝕜 n (fun z ↦ B z z)` and `ContinuousLinearMap.differentiable_apply_self` (`TauCeti/Analysis/Calculus/Bilinear.lean:42,46`), and the quadratic-model theorem uses them instead of reconstructing smoothness inline.

Verified at `cf6818d9`: `lake build` → "Build completed successfully (7472 jobs)."; `lake exe axioms` → "audited 37945 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound]."

**Comment by sqrt-of-2** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/correctness.md) | approved | `agy/gemini-3.6-flash-high` | The definitions of nondegenerate critical points and their core properties—including isolation, finiteness on compact sets, coordinate invariance, and the quadratic model—are mathematically sound and faithful to standard Morse theory. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/reuse.md) | approved | `agy/gemini-3.6-flash-high` | The PR introduces Morse-theoretic nondegeneracy and its calculus prerequisites without duplicating existing Mathlib or TauCeti declarations, correctly reusing Mathlib's bilinear differential, compact-discrete finiteness, and dual finite-dimensionality machinery. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/scope.md) | approved | `agy/gemini-3.6-flash-high` | This PR advances Stage 0 of Lane M (Morse homology) in the HeegaardFloer roadmap by defining nondegenerate critical points and establishing their isolation and compact finiteness as a single coherent unit. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/attribution.md) | approved | `agy/gemini-3.6-flash-high` | The PR properly credits its central informal reference texts (Audin–Damian, Palais, Schwarz) and the roadmap entry in the module documentation. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/api-design.md) | changes requested | `agy/gemini-3.6-flash-high` | The exposed surface is minimal with proper coordinate-invariance lemmas and hidden implementation details, but `HasNondegenerateCriticalPointsOn` lacks characteristic set-operation API for empty sets and unions. |
| 🟡 | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/generality.md) | changes requested | `agy/gemini-3.6-flash-high` | The PR generally places Morse-theoretic definitions and calculus lemmas at the appropriate level of generality. However, the finite-dimensional equivalence between invertibility of a continuous bilinear map and left-separating Hessian forms is proved inline for a specific derivative instead of as a general lemma on continuous linear maps. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/placement.md) | approved | `agy/gemini-3.6-flash-high` | All new declarations are placed in their canonical modules according to scope and dependencies, and all imports are specific and used. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/naming.md) | approved | `agy/gemini-3.6-flash-high` | All introduced declaration names, structure fields, and namespaces accurately describe their conclusions using standard Mathlib terminology and naming conventions. |
| 🟡 | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/documentation.md) | changes requested | `agy/gemini-3.6-flash-high` | The new modules and public declarations are well-documented, but one docstring header uses inaccurate terminology. `fderiv_fderiv_comp_apply_of_fderiv_eq_zero` refers to a critical value instead of a critical point. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/proof-quality.md) | approved | `agy/gemini-3.6-flash-high` | The proof scripts are robust, readable, and concise, with intermediate reasoning cleanly structured and auxiliary calculus results properly factored into separate modules. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a209c165a6751de328da2af4ff3381b9c8c6f568...cf6818d992196a027e74b19ab590ed8bd7041d46) at head `cf6818d`. rubrics @ [`b8161ef`](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics). Review spend: $0.75.</sub>

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (sqrt-of-2) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `correctness` —** re-reviewed on `cf6818d`; this clears the finding ✅ — approved on `cf6818d`.

<sub>`agy/gemini-3.6-flash-high` · addresses your replies through comment 3755374484.</sub>

Comment (sqrt-of-2) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `cf6818d`; this clears the finding ✅ — approved on `cf6818d`.

<sub>`agy/gemini-3.6-flash-high` · addresses your replies through comment 3755615401.</sub>

Comment (sqrt-of-2) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 api-design — request_changes  `agy/gemini-3.6-flash-high`

The exposed surface is minimal with proper coordinate-invariance lemmas and hidden implementation details, but `HasNondegenerateCriticalPointsOn` lacks characteristic set-operation API for empty sets and unions.

- `TauCeti/Analysis/Calculus/Morse.lean:118` — The predicate `HasNondegenerateCriticalPointsOn` lacks characteristic set-operation API for the empty set and set unions, forcing callers to unfold the definition for standard set operations. _Fix:_ Add `@[simp] theorem hasNondegenerateCriticalPointsOn_empty (f : E → ℝ) : HasNondegenerateCriticalPointsOn f ∅` and `theorem hasNondegenerateCriticalPointsOn_union {s t : Set E} : HasNondegenerateCriticalPointsOn f (s ∪ t) ↔ HasNondegenerateCriticalPointsOn f s ∧ HasNondegenerateCriticalPointsOn f t`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`agy/gemini-3.6-flash-high` · 51s · 128k in / 19.9k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a209c165a6751de328da2af4ff3381b9c8c6f568...cf6818d992196a027e74b19ab590ed8bd7041d46) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/api-design.md)</sub>

Comment (sqrt-of-2) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 generality — request_changes  `agy/gemini-3.6-flash-high`

The PR generally places Morse-theoretic definitions and calculus lemmas at the appropriate level of generality. However, the finite-dimensional equivalence between invertibility of a continuous bilinear map and left-separating Hessian forms is proved inline for a specific derivative instead of as a general lemma on continuous linear maps.

- `TauCeti/Analysis/Calculus/Morse.lean:142` — isNondegenerateCriticalPoint_iff_separatingLeft proves the finite-dimensional equivalence between IsInvertible and toBilinForm.SeparatingLeft inline specifically for fderiv ℝ (fderiv ℝ f) x instead of proving the general result for continuous bilinear maps. _Fix:_ State and prove ContinuousLinearMap.isInvertible_iff_separatingLeft [FiniteDimensional ℝ E] (L : E →L[ℝ] E →L[ℝ] ℝ) : L.IsInvertible ↔ L.toBilinForm.SeparatingLeft first, then derive isNondegenerateCriticalPoint_iff_separatingLeft by applying it to the Hessian.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`agy/gemini-3.6-flash-high` · 491s · 90.2k in / 19.7k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a209c165a6751de328da2af4ff3381b9c8c6f568...cf6818d992196a027e74b19ab590ed8bd7041d46) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/generality.md)</sub>

File: TauCeti/Analysis/Calculus/SecondDerivative.lean
Comment (sqrt-of-2) [inline TauCeti/Analysis/Calculus/SecondDerivative.lean:1]: ### 🟡 documentation — request_changes  `agy/gemini-3.6-flash-high`

The new modules and public declarations are well-documented, but one docstring header uses inaccurate terminology. `fderiv_fderiv_comp_apply_of_fderiv_eq_zero` refers to a critical value instead of a critical point.

- `TauCeti/Analysis/Calculus/SecondDerivative.lean:51` — The docstring title for `fderiv_fderiv_comp_apply_of_fderiv_eq_zero` calls `φ b` a 'critical value', but `fderiv 𝕜 f (φ b) = 0` means `φ b` is a point in the domain `E` (a critical point), not a value in the codomain `G`. _Fix:_ Replace 'critical value' with 'critical point' in the docstring header.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`agy/gemini-3.6-flash-high` · 26s · 66.3k in / 13.7k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a209c165a6751de328da2af4ff3381b9c8c6f568...cf6818d992196a027e74b19ab590ed8bd7041d46) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/documentation.md)</sub>

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: All three bullets are fixed at the current head `cf6818d9` (the fixes landed in `f077086`, which post-dates the `5ad78be` this round reviewed).

- **Bare `rfl` through the CLM coercion / hand-rolled injectivity.** The block is now exactly the one-liner you suggested — `Morse.lean:166-169`:
  ```lean
  have hinj : Injective (fderiv ℝ (fderiv ℝ f) x : E →ₗ[ℝ] E →L[ℝ] ℝ) :=
    (injective_iff_map_eq_zero _).2 fun v hv ↦ hnd v fun w ↦ by
      simp only [ContinuousLinearMap.coe_coe] at hv
      simp [hv]
  ```
  No subtraction, no `rfl`; `simp` discharges the application.
- **Brittle backwards rewrite of `0` plus trailing `rfl` in the isolation proof.** That proof no longer exists in that shape: `IsNondegenerateCriticalPoint.eventually_fderiv_ne_zero` (`Morse.lean:186-193`) now states isolation as `∀ᶠ y in 𝓝[≠] x, fderiv ℝ f y ≠ 0` and closes through Mathlib’s `HasFDerivAt.eventually_ne`, and the discreteness step (`Morse.lean:196-203`) goes through `isDiscrete_iff_nhdsNE` and `filter_upwards`. `grep -n "rfl" TauCeti/Analysis/Calculus/Morse.lean` now returns only `Iff.rfl` (line 140, the elimination lemma’s body), `le_rfl` (line 192) and an `rfl` *pattern* in `obtain ⟨e, rfl⟩` (line 298) — no goal in the file is closed by a bare `rfl`.
- **Repeated `fderiv_right … one_ne_zero` incantation.** Factored into a single lemma, as you asked, and put in a generic module: `TauCeti.ContDiffAt.hasStrictFDerivAt_fderiv` in `TauCeti/Analysis/Calculus/SecondDerivative.lean:46-49`, stated for a general target and with a *variable* smoothness order (`{n : WithTop ℕ∞} (h : ContDiffAt 𝕜 n g x) (hn : 2 ≤ n)`) over an `RCLike` field. Every former inline site now calls it (`Morse.lean:192`, `SecondDerivative.lean:59,61`).

`lake build` → `Build completed successfully (7472 jobs).`; `lake exe axioms` → `audited 37945 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound]` at `cf6818d9`.

[the remark this answers is not in the document]
Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Both bullets are fixed at the current head `cf6818d9` (the fixes landed in `f077086`, which post-dates the `16101c3` this round reviewed).

- **The second-order chain rule is now generic and lives with the other generic second-derivative fact.** `fderiv_fderiv_comp_apply_of_fderiv_eq_zero` moved out of `Morse.lean` into `TauCeti/Analysis/Calculus/SecondDerivative.lean:54-57`, with exactly the signature you proposed:
  ```lean
  variable {𝕜 E F G : Type*} [RCLike 𝕜] [NormedAddCommGroup E] [NormedSpace 𝕜 E] …
  theorem fderiv_fderiv_comp_apply_of_fderiv_eq_zero {f : E → G} {φ : F → E} {b : F}
      (hf : ContDiffAt 𝕜 2 f (φ b)) (hφ : ContDiffAt 𝕜 2 φ b) (hc : fderiv 𝕜 f (φ b) = 0) (v w : F) :
      fderiv 𝕜 (fderiv 𝕜 (f ∘ φ)) b v w =
        fderiv 𝕜 (fderiv 𝕜 f) (φ b) (fderiv 𝕜 φ b v) (fderiv 𝕜 φ b w)
  ```
  `isNondegenerateCriticalPoint_comp_iff` applies the `𝕜 = ℝ, G = ℝ` instance (`Morse.lean:249`), and `Morse.lean` documents where the lemma now lives (`Morse.lean:50-54, 220-226`).
- **The packaged second-derivative lemma now carries a variable order.** `SecondDerivative.lean:46-49` is your suggested statement verbatim:
  ```lean
  theorem ContDiffAt.hasStrictFDerivAt_fderiv {n : WithTop ℕ∞} {g : E → F} {x : E}
      (h : ContDiffAt 𝕜 n g x) (hn : 2 ≤ n) :
      HasStrictFDerivAt (fderiv 𝕜 g) (fderiv 𝕜 (fderiv 𝕜 g) x) x :=
    (h.fderiv_right (m := 1) (by exact_mod_cast hn)).hasStrictFDerivAt one_ne_zero
  ```
  so it applies at `n = 3`, `∞`, `ω` without `.of_le`, and the call sites pass `le_rfl` (`Morse.lean:192`, `SecondDerivative.lean:59,61`).

`lake build` → `Build completed successfully (7472 jobs).`; `lake exe axioms` → `all within the allowlist [propext, Classical.choice, Quot.sound]` at `cf6818d9`.

[the remark this answers is not in the document]
Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Both bullets are fixed at the current head `cf6818d9` (the fixes landed in `f077086`, which post-dates the `16101c3` this round reviewed).

- **The model theorems are now anchored in `ContinuousLinearMap`.** `Morse.lean:281-307` wraps both in `namespace ContinuousLinearMap` inside `TauCeti`, so they are `TauCeti.ContinuousLinearMap.isNondegenerateCriticalPoint_apply_self` and `TauCeti.ContinuousLinearMap.isNondegenerateCriticalPoint_apply_self_of_flip_eq_self`, matching the `Bilinear.lean` siblings (`hasStrictFDerivAt_apply_self`, `fderiv_apply_self`, `fderiv_fderiv_apply_self`) and enabling `B.isNondegenerateCriticalPoint_apply_self`. The module docstring cites the qualified names (`Morse.lean:77-82`).
- **`isNondegenerateCriticalPoint_iff` now names its right-hand side.** It is `isNondegenerateCriticalPoint_iff_separatingLeft` (`Morse.lean:160`), after `LinearMap.SeparatingLeft`, which is literally the head of the third conjunct — `(fderiv ℝ (fderiv ℝ f) x).toBilinForm.SeparatingLeft` — with the one-directional half as `IsNondegenerateCriticalPoint.separatingLeft` (`Morse.lean:150`). So no bare `_iff` remains on a conditional characterization, and it can no longer be read as the definitional unfolding.

`lake build` → `Build completed successfully (7472 jobs).`; `lake exe axioms` → `all within the allowlist [propext, Classical.choice, Quot.sound]` at `cf6818d9`.

[the remark this answers is not in the document]
Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: All five bullets are fixed at the current head `cf6818d9` (the fixes landed in `f077086`, which post-dates the `16101c3` this round reviewed).

- **Module docstring on regularity.** `Morse.lean:31-37` no longer overclaims: it now says only that no statement *hypothesising `IsNondegenerateCriticalPoint`* needs a separate regularity hypothesis, and then names the exceptions explicitly — the finiteness statement (continuity of `fderiv ℝ f` on the compact set) and the change-of-coordinates results, which "need `ContDiffAt ℝ 2` of the chart (and, for the two-way `isNondegenerateCriticalPoint_comp_iff`, of `f` as well, since there nondegeneracy is assumed downstairs rather than upstairs)". The raw chain-rule lemma is no longer in this file at all (it moved to `SecondDerivative.lean`, where its own docstring states its hypotheses).
- **`fderiv_apply_self` docstring.** `Bilinear.lean:67` now reads "At `y`, the differential of `z ↦ B z z` is `B.flip y + B y`", and `hasStrictFDerivAt_apply_self` / `hasFDerivAt_apply_self` (`Bilinear.lean:49-50, 61-62`) say "with derivative the polarization of `B` evaluated at `y`", so only `fderiv_fderiv_apply_self` (`Bilinear.lean:73`) claims the constant `B.flip + B`.
- **Roadmap URL.** `Morse.lean:96` now has the `TauCetiRoadmap/` path segment: `https://github.com/TauCetiProject/TauCetiRoadmap/blob/main/TauCetiRoadmap/HeegaardFloer/README.md`.
- **Main declarations list.** The symmetric model has its own bullet (`Morse.lean:80-82`: "the symmetric case of the model, where the polarization is `2 • B`, so an invertible symmetric `B` suffices"). `eq_zero_of_ortho` no longer exists — it was dropped in favour of `IsNondegenerateCriticalPoint.separatingLeft`, which is listed (`Morse.lean:62-63`).
- **PR description.** Updated to the shipped names: it now cites `TauCeti.ContinuousLinearMap.isNondegenerateCriticalPoint_apply_self`, `..._of_flip_eq_self` and `TauCeti.fderiv_fderiv_comp_apply_of_fderiv_eq_zero`; neither `isNondegenerateCriticalPoint_quadratic` nor `fderiv_fderiv_comp_apply` appears anywhere in it.

`lake build` → `Build completed successfully (7472 jobs).`; `lake exe axioms` → `all within the allowlist [propext, Classical.choice, Quot.sound]` at `cf6818d9`.

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Contesting this finding: the suggested name shape does not exist in Mathlib, and Mathlib’s own convention is to leave the ambient set out of the name when it is carried by the `…On` head symbol, which is exactly the situation here.

- The proposed component has no precedent. Over the pinned Mathlib (`de5ce8a9a6`), `grep -rn "setOf_mem_and" Mathlib --include=*.lean` returns **0 hits**. Mathlib does not name `{x ∈ s | p x}` by spelling out the membership conjunct; where it names the shape at all it calls it `sep` (`Mathlib/Data/Set/Basic.lean:906` `mem_sep_iff`, `:836` `inter_ofPred_eq_sep`), so `setOf_mem_and_fderiv_eq_zero` would be a new name shape unique to this file.
- Mathlib omits the set when an `…On` hypothesis supplies it. `Mathlib/Analysis/Convex/Deriv.lean:371`
  ```lean
  lemma ConvexOn.monotoneOn_slope_gt (hfc : ConvexOn 𝕜 s f) (hxs : x ∈ s) :
      MonotoneOn (slope f x) {y ∈ s | x < y}
  ```
  and its sibling `ConvexOn.monotoneOn_slope_lt` (`:375`) both conclude about a `{y ∈ s | … }` set with no `mem`/`and` component in the name: the `s` is understood from the `ConvexOn … s` prefix. `HasNondegenerateCriticalPointsOn.isDiscrete_setOf_fderiv_eq_zero` and `.finite_setOf_fderiv_eq_zero` are in precisely that position — the `On` in `HasNondegenerateCriticalPointsOn f s` is what introduces `s`, and the conclusion restricts to that same `s`, so repeating it in the name adds no information a reader lacks.
- The later `naming` round on this PR (`claude/claude-opus-5`, rubrics `b8161ef`, [thread](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3757052314)) reviewed these two names and did not flag them; it raised two other naming issues, both of which are fixed at the current head `cf6818d9`.

Renaming as suggested would therefore trade a Mathlib-conformant name for one with no precedent, so I have left the names as they are.

Comment (eohjelle) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 reuse — request_changes  `codex/gpt-5.6-sol`

The PR adds a redundant public iff theorem that merely unfolds the definition.

- `TauCeti/Analysis/Calculus/Morse.lean:142` — `hasNondegenerateCriticalPointsOn_iff` duplicates `HasNondegenerateCriticalPointsOn` definitionally (`Iff.rfl`), creating an unnecessary parallel API. _Fix:_ Delete the theorem; consumers can use `change`, `unfold HasNondegenerateCriticalPointsOn`, or apply the definition directly.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 44s · 78.1k in / 1.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a209c165a6751de328da2af4ff3381b9c8c6f568...cf6818d992196a027e74b19ab590ed8bd7041d46) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/reuse.md)</sub>

Comment (eohjelle) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 placement — request_changes  `codex/gpt-5.6-sol`

The declarations are naturally placed, but Morse has an evidently redundant direct import.

- `TauCeti/Analysis/Calculus/Morse.lean:7` — `Mathlib.Analysis.Calculus.ContDiff.Comp` is imported directly although both subsequently imported TauCeti calculus modules publicly re-export it. _Fix:_ Remove the redundant direct Mathlib import.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 27s · 51.7k in / 841 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a209c165a6751de328da2af4ff3381b9c8c6f568...cf6818d992196a027e74b19ab590ed8bd7041d46) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/placement.md)</sub>

**Comment by eohjelle** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The definitions and theorem statements faithfully formalize nondegenerate critical points, their isolation and compact-locus finiteness, coordinate invariance, and the quadratic model. No semantic defect was found. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/reuse.md) | changes requested | `codex/gpt-5.6-sol` | The PR adds a redundant public iff theorem that merely unfolds the definition. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR directly advances Heegaard Floer roadmap Lane M by establishing foundational Morse-theoretic definitions, isolation, and compact-set finiteness. The generic derivative modules are immediate prerequisites used by the Morse development, so the three files form one coherent topic. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module credits the central informal sources for finite-dimensional and Banach/Hilbert Morse theory, identifies the relevant Mathlib constructions, and links the governing roadmap. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical public surface is appropriately scoped, keeps implementation details inside proofs, and provides the expected introduction, elimination, restriction, invariance, isolation, finiteness, and quadratic-model APIs with suitable normalization lemmas. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The new statements use natural levels of generality: generic bilinear calculus over normed fields, second-derivative calculus over `RCLike`, and real-valued Morse theory with finite dimensionality imposed only for the converse characterization. No materially unused or unnecessarily strong assumptions are visible. |
| 🟡 | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/placement.md) | changes requested | `codex/gpt-5.6-sol` | The declarations are naturally placed, but Morse has an evidently redundant direct import. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions using standard Mathlib terminology, and no new notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | Each new substantive module has an accurate module docstring, and all public declarations are documented with descriptions matching their statements. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise, appropriately factored, and use explicit derivative and equivalence lemmas without undocumented definitional-equality manipulation or brittle rewrite chains. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/a209c165a6751de328da2af4ff3381b9c8c6f568...cf6818d992196a027e74b19ab590ed8bd7041d46) at head `cf6818d`. rubrics @ [`a66b04d`](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics). Review spend: $1.39.</sub>

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (eohjelle) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `correctness` —** re-reviewed on `cf6818d`; this clears the finding ✅ — approved on `cf6818d`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755374484.</sub>

Comment (eohjelle) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `cf6818d`; the finding stands — The PR adds a redundant public iff theorem that merely unfolds the definition.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755615401.</sub>

Comment (eohjelle) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `cf6818d`; this clears the finding ✅ — approved on `cf6818d`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3759769731.</sub>

[the remark this answers is not in the document]
Comment (eohjelle) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `generality` —** re-reviewed on `cf6818d`; this clears the finding ✅ — approved on `cf6818d`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760619018.</sub>

[the remark this answers is not in the document]
Comment (eohjelle) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `naming` —** re-reviewed on `cf6818d`; this clears the finding ✅ — approved on `cf6818d`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760623412.</sub>

[the remark this answers is not in the document]
Comment (eohjelle) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `cf6818d`; this clears the finding ✅ — approved on `cf6818d`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760621702.</sub>

Comment (eohjelle) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `cf6818d`; this clears the finding ✅ — approved on `cf6818d`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760617523.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Contesting this finding: its stated premise is empirically false, and deleting the theorem would reverse an `api-design` finding on this same PR that the current head satisfies (and which `api-design` is green on).

**1. The suggested replacements do not compile.** The finding says "consumers can use `change`, `unfold HasNondegenerateCriticalPointsOn`, or apply the definition directly". `HasNondegenerateCriticalPointsOn` is a `def` in a plain `public section` with **no** `@[expose]` (`Morse.lean:127`), so its body is invisible downstream. Checked against the pinned toolchain with `lake env lean` on a file importing `TauCeti.Analysis.Calculus.Morse`, at head `c660c7e1`:

```lean
variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] {f : E → ℝ} {s : Set E}

-- "apply the definition directly"
example (h : ∀ ⦃x⦄, x ∈ s → fderiv ℝ f x = 0 → IsNondegenerateCriticalPoint f x) :
    HasNondegenerateCriticalPointsOn f s := h
-- "unfold"
example (h : ∀ ⦃x⦄, x ∈ s → fderiv ℝ f x = 0 → IsNondegenerateCriticalPoint f x) :
    HasNondegenerateCriticalPointsOn f s := by
  unfold HasNondegenerateCriticalPointsOn; exact h
-- "change"
example (h : ∀ ⦃x⦄, x ∈ s → fderiv ℝ f x = 0 → IsNondegenerateCriticalPoint f x) :
    HasNondegenerateCriticalPointsOn f s := by
  change ∀ ⦃x⦄, x ∈ s → fderiv ℝ f x = 0 → IsNondegenerateCriticalPoint f x; exact h
-- elimination: using the hypothesis as a function, the way the in-file proofs do
example {x : E} (h : HasNondegenerateCriticalPointsOn f s) (hx : x ∈ s)
    (h0 : fderiv ℝ f x = 0) : IsNondegenerateCriticalPoint f x := h hx h0
```

All four fail:

```
error: Type mismatch
  h
has type
  ∀ ⦃x : E⦄, x ∈ s → fderiv ℝ f x = 0 → IsNondegenerateCriticalPoint f x
but is expected to have type
  HasNondegenerateCriticalPointsOn f s
Note: The following definitions were not unfolded because their definition is not exposed:
  HasNondegenerateCriticalPointsOn ↦ 2
error: Tactic `unfold` failed to unfold `HasNondegenerateCriticalPointsOn` in
  HasNondegenerateCriticalPointsOn f s
error: 'change' tactic failed, pattern
  ∀ ⦃x : E⦄, x ∈ s → fderiv ℝ f x = 0 → IsNondegenerateCriticalPoint f x
is not definitionally equal to target
  HasNondegenerateCriticalPointsOn f s
error: Function expected at
  h
but this term has type
  HasNondegenerateCriticalPointsOn f s
```

The same file's fifth example, `hasNondegenerateCriticalPointsOn_iff.2 h`, compiles without error. So the theorem is not a "parallel API": across the module boundary it is the **only** way to introduce or eliminate the predicate, and without it `HasNondegenerateCriticalPointsOn.isDiscrete_setOf_fderiv_eq_zero` and `.finite_setOf_fderiv_eq_zero` — the PR's headline results — have an unconstructable hypothesis. `Iff.rfl` is the *proof*, not the content; the content is exactly the definitional equality that the module system otherwise withholds.

**2. Deleting it reverses `api-design` round 1 ([3754263530](https://github.com/TauCetiProject/TauCeti/pull/2716#discussion_r3754263530), `claude/claude-opus-5`), which blocked on its absence**, quoted in full:

> `IsMorseOn` is a `def` under a plain `public section` with no `@[expose]`, and the file provides no intro/elim/`_iff` lemma for it. Its body is therefore invisible downstream, so a consumer can neither construct an `IsMorseOn f s` (the hypothesis of `finite_setOf_fderiv_eq_zero` at line 157 and `isDiscrete_setOf_fderiv_eq_zero` at line 143) nor apply one as a function the way the in-file proofs do (`hM hys hy0`, line 148). Both exported theorems are unusable outside this module. _Fix:_ Keep the body unexposed and add the characteristic API next to the definition: `theorem isMorseOn_iff : IsMorseOn f s ↔ ∀ x ∈ s, fderiv ℝ f x = 0 → IsNondegenerateCriticalPoint f x := Iff.rfl` (intro + elim in one, provable only here) … Do not fix this by adding `@[expose]`.

`hasNondegenerateCriticalPointsOn_iff` is that fix verbatim (renamed with the predicate). `api-design` is ✅ approved on `cf6818d` citing precisely this — "provides the expected introduction, elimination, restriction, invariance, isolation, finiteness, and quadratic-model APIs". The theorem cannot both exist and not exist; the transcript above shows which side is right on the merits.

The unrelated `placement` finding is fixed at `c660c7e1` (the redundant `Mathlib.Analysis.Calculus.ContDiff.Comp` import is gone). Verified there: `lake build` → `Build completed successfully (7472 jobs).`; `lake exe axioms` → `audited 37945 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound].`

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `correctness` —** re-reviewed on `c660c7e`; this clears the finding ✅ — approved on `c660c7e`.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3755374484.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `c660c7e`; this clears the finding ✅ — approved on `c660c7e`.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3760964853.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `c660c7e`; this clears the finding ✅ — approved on `c660c7e`.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3759769731.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `generality` —** re-reviewed on `c660c7e`; the finding stands — Prior findings are addressed at this head. One assumption remains stronger than needed: the second-order chain rule in the generic calculus module is fixed at `RCLike` although its proof only needs a nontrivially normed field.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3760619018.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `naming` —** re-reviewed on `c660c7e`; this clears the finding ✅ — approved on `c660c7e`.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3760623412.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `c660c7e`; the finding stands — Documentation is otherwise complete and accurate: module docstrings on all three new files, every public declaration and structure field documented, verified Mathlib and roadmap cross-references, and the prior rounds' overclaim and proof-narration issues are fixed. One docstring headline misuses "critical value" for what is a critical point.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3760621702.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `c660c7e`; the finding stands — All three prior proof-quality findings are fixed at the current head and the remaining proofs are robust, comment-backed, and free of undocumented defeq. One reusable fact — that the Hessian form is left-separating exactly when the induced map into the dual is injective — is proved twice inline, in opposite directions, instead of once.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3760617523.</sub>

File: TauCeti/Analysis/Calculus/SecondDerivative.lean
Comment (CBirkbeck) [inline TauCeti/Analysis/Calculus/SecondDerivative.lean:1]: ### ✅ proof-quality — now passing on `ed17d29`.

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `7355194`; this clears the finding ✅ — approved on `7355194`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760964853.</sub>

Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `7355194`; this clears the finding ✅ — approved on `7355194`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3759769731.</sub>

Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `generality` —** re-reviewed on `7355194`; this clears the finding ✅ — approved on `7355194`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760619018.</sub>

Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `naming` —** re-reviewed on `7355194`; this clears the finding ✅ — approved on `7355194`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760623412.</sub>

Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `7355194`; the finding stands — The finiteness documentation repeatedly omits a necessary continuity hypothesis and therefore overstates the theorem.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760621702.</sub>

Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `7355194`; the finding stands — The new helper for second derivatives is not used at the two repeated proof sites it was meant to consolidate.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760617523.</sub>

Comment (brettkoonce) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 reuse — request_changes  `claude/claude-opus-5`

The Morse definitions and the bilinear-diagonal calculus are new material with no Mathlib counterpart, but the isolation/discreteness/finiteness triple restates the zero-set triple already in TauCeti/Analysis/Fredholm/LevelSet.lean, and two smaller redundancies remain (an Iff.rfl restatement of the new def, and an unconverted in-repo clone of the new second-derivative lemma).

- `TauCeti/Analysis/Calculus/Morse.lean:181` — `IsNondegenerateCriticalPoint.eventually_fderiv_ne_zero`, `HasNondegenerateCriticalPointsOn.isDiscrete_setOf_fderiv_eq_zero` (l.191) and `.finite_setOf_fderiv_eq_zero` (l.205) are the map `fderiv ℝ f` at value `0` of the existing triple `TauCeti.not_accPt_levelSet_of_injective_of_isClosed_range` (TauCeti/Analysis/Fredholm/LevelSet.lean:517), `TauCeti.isDiscrete_levelSet_inter_of_injective_of_isClosed_range` (:540) and `TauCeti.finite_levelSet_inter_of_injective_of_isClosed_range` (:551): same three statements, same proofs (`HasFDerivAt.eventually_ne`, then `IsDiscrete`, then `IsCompact.finite`), only the packaging of the hypotheses differs (`¬AccPt` vs `∀ᶠ … 𝓝[≠]`, `{x | g x = c} ∩ K` vs `{x ∈ K | …}`). _Fix:_ Factor the common content into one lemma — zeros of a map whose derivative at each zero is antilipschitz are isolated, hence the zero set is discrete and a compact one is finite — stated without `CompleteSpace`/closed-range hypotheses (LevelSet gets those from `antilipschitz_of_injective_of_isClosed_range`, which Morse does not need since the Hessian is an equivalence) in a lightweight file both can import, and derive both the LevelSet triple and the Morse triple from it in one line each. Do not import Fredholm/LevelSet into Calculus/Morse (it pulls in Geometry.Manifold.ChartedSpace).
- `TauCeti/Analysis/Calculus/Morse.lean:138` — `hasNondegenerateCriticalPointsOn_iff` is `Iff.rfl` and repeats the body of the `def` at l.128 verbatim, so it adds no content; `HasNondegenerateCriticalPointsOn.mono` (l.144) already applies the predicate directly without it. _Fix:_ Delete `hasNondegenerateCriticalPointsOn_iff`; users apply `hM hx h0` and construct with `fun _ hx h0 ↦ …` as `mono` does.
- `TauCeti/Analysis/Calculus/SecondDerivative.lean:44` — `ContDiffAt.hasFDerivAt_fderiv` is exactly the term already inlined three times in TauCeti/Analysis/Calculus/ParametricFDeriv.lean (lines 137-138, 147-148, and the `DifferentiableAt` form at 161-162), which the PR leaves in place, so the same derivation now exists as public API and as duplicated proof text. _Fix:_ Replace those `have`s with `ContDiffAt.hasFDerivAt_fderiv hF le_minSmoothness` (and `.differentiableAt` for line 161) in the same PR.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 364s · 34 in / 26.5k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...c8be7d697afd8451be6f6d7e2a4c5cdf5157d33a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/reuse.md)</sub>

Comment (brettkoonce) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 generality — request_changes  `claude/claude-opus-5`

The Banach-level phrasing, the generic field in SecondDerivative.lean/Bilinear.lean, and the finite-dimensional side conditions are all at the natural level. One headline lemma carries an assumption its proof never uses: isolation needs only C² regularity plus an invertible second derivative, not criticality, and the Mathlib lemma it closes with gives a strictly stronger conclusion for free.

- `TauCeti/Analysis/Calculus/Morse.lean:181` — `IsNondegenerateCriticalPoint.eventually_fderiv_ne_zero` hypothesises the whole nondegenerate-critical-point bundle, but the proof uses only `h.isInvertible` and `h.contDiffAt`; `h.fderiv_eq_zero` is never used, and the conclusion does not depend on it. Moreover `HasFDerivAt.eventually_ne` proves `fderiv ℝ f y ≠ c` for an arbitrary `c`, i.e. local injectivity of `fderiv ℝ f` near `x`, so the general fact is already established by this proof and then thrown away. _Fix:_ State the general lemma first, e.g. `theorem eventually_fderiv_ne {c : E →L[ℝ] ℝ} (hf : ContDiffAt ℝ 2 f x) (hinv : (fderiv ℝ (fderiv ℝ f) x).IsInvertible) : ∀ᶠ y in 𝓝[≠] x, fderiv ℝ f y ≠ c`, with the same proof body, and keep `IsNondegenerateCriticalPoint.eventually_fderiv_ne_zero := eventually_fderiv_ne h.contDiffAt h.isInvertible` as the corollary (downstream isolation/discreteness statements are unchanged).

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 318s · 25 in / 23.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...c8be7d697afd8451be6f6d7e2a4c5cdf5157d33a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/generality.md)</sub>

Comment (brettkoonce) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 documentation — request_changes  `claude/claude-opus-5`

Coverage is complete (every file and public declaration is documented) and the Mathlib names, references, and roadmap link cited in the prose check out. Three docstrings on the composition results state their conclusions under the invertibility/vanishing hypothesis alone, dropping the `ContDiffAt 𝕜 2` hypotheses without which the claims are false; one module docstring makes a dependency claim its own contents contradict.

- `TauCeti/Analysis/Calculus/Morse.lean:225` — The docstring of `isNondegenerateCriticalPoint_comp_iff` promises the equivalence from invertibility alone ("If the differential of `φ` at `b` is invertible, then `f ∘ φ` has a nondegenerate critical point at `b` exactly when `f` has one at `φ b`"), but the theorem also requires `hf : ContDiffAt ℝ 2 f (φ b)` and `hφ : ContDiffAt ℝ 2 φ b` (Morse.lean:228-229). Without C² of `φ` the `←` direction is not available: `fderiv ℝ φ` need not be differentiable at `b`, so `f ∘ φ` need not be C² there and the totalized second derivative can be `0`. _Fix:_ State the regularity: "If `f` is C² at `φ b`, `φ` is C² at `b`, and the differential of `φ` at `b` is invertible, then …", matching Mathlib's convention (`ContDiffAt.isSymmSndFDerivAt`: "If a function is `C^2` at a point, then …").
- `TauCeti/Analysis/Calculus/SecondDerivative.lean:49` — Same omission for `fderiv_fderiv_comp_apply_of_fderiv_eq_zero`: the docstring says "If the differential of `f` vanishes at `φ b`, then the second derivative of `f ∘ φ` at `b` is …", but the identity also needs `hf : ContDiffAt 𝕜 2 f (φ b)` and `hφ : ContDiffAt 𝕜 2 φ b` (line 53); with `fderiv` totalized by zero the bare statement is false. The Main-results bullet at line 28-30 repeats the hypothesis-free phrasing. _Fix:_ Add the C² hypotheses to both the declaration docstring and the Main-results bullet.
- `TauCeti/Analysis/Calculus/Morse.lean:256` — Third instance: `IsNondegenerateCriticalPoint.comp`'s docstring says the pullback holds "provided the differential of `φ` at `b` is invertible", omitting `hφ : ContDiffAt ℝ 2 φ b` (line 259), which is an essential hypothesis, not bookkeeping. _Fix:_ Mention C² of `φ` at `b` alongside the invertibility condition.
- `TauCeti/Analysis/Calculus/Bilinear.lean:16` — The module docstring claims the file "depends on nothing beyond the bilinear chain rule `ContinuousLinearMap.hasStrictFDerivAt_of_bilinear`", but `contDiff_apply_self` (line 42-43) is proved from `IsBoundedBilinearMap.contDiff` and `ContDiff.comp₂`, which is why the file imports `Mathlib.Analysis.Calculus.ContDiff.Comp` (line 7). The claim is stale after the smoothness lemmas were added. _Fix:_ Say it depends on nothing beyond the bilinear chain rule and the smoothness of bounded bilinear maps, or drop the exclusivity claim.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 263s · 29 in / 20.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...c8be7d697afd8451be6f6d7e2a4c5cdf5157d33a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/documentation.md)</sub>

**Comment by brettkoonce** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/correctness.md) | approved | `claude/claude-opus-5` | The definitions capture the intended objects (Palais-style invertibility of the second derivative as a map into the dual, with regularity bundled to defeat fderiv totalization), and the isolation, discreteness, finiteness, finite-dimensional separating-left characterization, germ-invariance, second-order chain rule and change-of-coordinates statements all hold as stated with hypotheses that carry no hidden content. The quadratic model supplies a genuine witness, so nothing is vacuous. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/reuse.md) | changes requested | `claude/claude-opus-5` | The Morse definitions and the bilinear-diagonal calculus are new material with no Mathlib counterpart, but the isolation/discreteness/finiteness triple restates the zero-set triple already in TauCeti/Analysis/Fredholm/LevelSet.lean, and two smaller redundancies remain (an Iff.rfl restatement of the new def, and an unconverted in-repo clone of the new second-derivative lemma). |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/scope.md) | approved | `claude/claude-opus-5` | The PR opens Lane M (Morse homology, Stage 0) of the HeegaardFloer roadmap with its definitional entry point — nondegenerate critical points, their isolation, and finiteness on a compact set — which the roadmap names first in that lane and which STATUS.md lists as immediately unblocked. It is a single unit: the Morse file plus the three generic calculus/bilinear modules it imports and uses. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/attribution.md) | approved | `claude/claude-opus-5` | The central formal and informal sources are credited in the code, not just the PR body: Audin–Damian, Palais 1963 and Schwarz Ch. 1 for the nondegeneracy condition, plus the Lane M roadmap link, all in the References block of Morse.lean. No Mathlib material is vendored (Mathlib has no Morse-theoretic analysis), and the generic support files draw on nothing requiring credit. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/api-design.md) | approved | `claude/claude-opus-5` | The post-PR surface is minimal and self-contained: no compatibility artifacts, no `@[expose]`, and the one `def` is characterized by an intro/elim `_iff` that is correctly left off the simp set. Each new definition carries its characteristic lemmas (germ invariance, chart invariance, finite-dimensional identification with `SeparatingLeft`, isolation/discreteness/finiteness, non-vacuity model), and the two `@[simp]` normal-form lemmas in `Bilinear.lean` neither loop nor overlap. |
| 🟡 | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/generality.md) | changes requested | `claude/claude-opus-5` | The Banach-level phrasing, the generic field in SecondDerivative.lean/Bilinear.lean, and the finite-dimensional side conditions are all at the natural level. One headline lemma carries an assumption its proof never uses: isolation needs only C² regularity plus an invertible second derivative, not criticality, and the Mathlib lemma it closes with gives a strictly stronger conclusion for free. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/placement.md) | approved | `claude/claude-opus-5` | All four new files sit in topic-appropriate homes: the two generic calculus modules are correctly split out ahead of the Morse file, and the purely topological-algebraic bilinear-form lemma sits at the level of Mathlib's own `toBilinForm`. Every import is used and specific. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/naming.md) | approved | `claude/claude-opus-5` | Names describe their conclusions in standard Mathlib terminology (SeparatingLeft, toBilinForm, congr_of_eventuallyEq, mono, comp, _apply_self), every `_iff` is a genuine biconditional with the one-directional halves split off separately, and no notation is introduced. Namespacing under TauCeti.ContinuousLinearMap matches established repo practice. |
| 🟡 | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/documentation.md) | changes requested | `claude/claude-opus-5` | Coverage is complete (every file and public declaration is documented) and the Mathlib names, references, and roadmap link cited in the prose check out. Three docstrings on the composition results state their conclusions under the invertibility/vanishing hypothesis alone, dropping the `ContDiffAt 𝕜 2` hypotheses without which the claims are false; one module docstring makes a dependency claim its own contents contradict. |
| 🟡 | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/proof-quality.md) | changes requested | `claude/claude-opus-5` | Proofs are short, comment-bearing and rest on real simp lemmas rather than defeq accidents. One general linear-algebra fact — injective + equal finrank ⇒ `IsInvertible` for a continuous linear map into the dual — is proved inline inside a Morse-theoretic iff and should be a standalone lemma. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...c8be7d697afd8451be6f6d7e2a4c5cdf5157d33a) at head `c8be7d6`. rubrics @ [`a66b04d`](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics). Review spend: $18.73.</sub>

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Contesting findings 1 and 2. Finding 3 is fixed in the commit accompanying this reply.

**Finding 2 (delete `hasNondegenerateCriticalPointsOn_iff`) — contested: it reverses an `api-design` requirement that is green on this same head.**

`api-design` round 4 (`claude/claude-opus-5`) recorded this lemma as the fix it had asked for:

> The prior finding is fixed: the renamed `HasNondegenerateCriticalPointsOn` now has the `Iff.rfl` intro/elim bridge `hasNondegenerateCriticalPointsOn_iff`, so its exported theorems are constructible and applicable downstream without an exposed body.

`api-design` then approved this very head (`c8be7d69`) with zero findings — that is, it approved a surface containing the lemma. `reuse` asks for the lemma to be deleted; `api-design` asked for it to exist and is green on it. Both cannot hold.

The lemma also carries a docstring, added by `cf6818d9` specifically to record why it is deliberately *not* a `simp` lemma, which is what an earlier `api-design` round had queried about that same declaration.

I am leaving it in place rather than satisfying one rubric and re-firing the other, per the AGENTS.md instruction to contest rather than alternate. If `reuse` is right that a def-unfolding `Iff.rfl` is redundant, then the `api-design` position — that an opaque `def` needs a public elimination bridge so its exported theorems are constructible downstream — is what has to give. That is a rubric-owner call, not something to settle by flip-flopping between rounds.

**Finding 1 (factor the isolation/discreteness/finiteness triple against `Analysis/Fredholm/LevelSet.lean`) — contested on scope, not on substance.**

The shape observation is fair. But the proposed change refactors `TauCeti/Analysis/Fredholm/LevelSet.lean` — an unrelated subsystem this PR does not otherwise touch — and introduces a new shared module for both sides to import. AGENTS.md: "One topic per PR. Ship a prerequisite refactor as its own PR."

The two triples are also not the same statement. `LevelSet` derives its antilipschitz bound from `antilipschitz_of_injective_of_isClosed_range` and so carries `CompleteSpace` and closed-range hypotheses; the Morse triple gets the bound directly from the Hessian being an equivalence and needs neither — as the finding itself notes. Unifying them therefore requires choosing the right common generalisation, which is a design question deserving its own review rather than being appended to a PR whose topic is Morse-theoretic nondegeneracy.

Happy to open that as a follow-up PR once this one lands.

**Finding 3 — fixed.** The three inlined copies in `ParametricFDeriv.lean` (lines 137-138, 147-148, 161-162) now call `TauCeti.ContDiffAt.hasFDerivAt_fderiv`.

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Bullet 3 is fixed at this head; bullets 1 and 2 I am contesting, with evidence below.

**Bullet 3 (`ParametricFDeriv.lean` clone) — fixed.** All three sites now go through the new helper: `TauCeti/Analysis/Calculus/ParametricFDeriv.lean:138` and `:148` are `TauCeti.ContDiffAt.hasFDerivAt_fderiv hF le_minSmoothness`, and `:161` is `(TauCeti.ContDiffAt.hasFDerivAt_fderiv hF le_minSmoothness).differentiableAt`, with the module added to that file's imports. `lake build` is green.

---

**Bullet 2 (delete `hasNondegenerateCriticalPointsOn_iff`) — contested: the suggested replacements do not elaborate, and the deletion is the exact reversal of the `api-design` verdict that is green on this same commit.**

1. *Empirical check.* `HasNondegenerateCriticalPointsOn` is a plain `def` in a `public section` with no `@[expose]`, so its **body is not visible to importing modules**. I put both of your suggested replacements in a scratch module importing `TauCeti.Analysis.Calculus.Morse` and built it:

```lean
example (hM : HasNondegenerateCriticalPointsOn f s) (hx : x ∈ s) (h0 : fderiv ℝ f x = 0) :
    IsNondegenerateCriticalPoint f x := hM hx h0

example (h : ∀ ⦃y⦄, y ∈ s → fderiv ℝ f y = 0 → IsNondegenerateCriticalPoint f y) :
    HasNondegenerateCriticalPointsOn f s := fun _ hx h0 ↦ h hx h0
```

```
error: Function expected at
  hM
but this term has type
  HasNondegenerateCriticalPointsOn f s
error: Type mismatch
  fun x hx h0 => h hx h0
...
Note: The following definitions were not unfolded because their definition is not exposed:
  HasNondegenerateCriticalPointsOn ↦ 2
```

So "users apply `hM hx h0` and construct with `fun _ hx h0 ↦ …`" is exactly what a downstream user *cannot* do. `HasNondegenerateCriticalPointsOn.mono` compiles only because it sits inside the defining module, where the body is visible; that is why it is not evidence that the `_iff` is redundant. Deleting the `_iff` would leave the predicate with **no** introduction or elimination rule outside its own file — the opposite of removing a duplicate. The only other way to restore usability would be `@[expose]` on the `def`, which is a different (and larger) API decision.

2. *Direct contradiction with a green rubric on this commit.* The `api-design` verdict for **this same round and head** approves precisely this arrangement: "The post-PR surface is minimal and self-contained: no compatibility artifacts, no `@[expose]`, and the one `def` is characterized by an intro/elim `_iff` that is correctly left off the simp set." Deleting the `_iff` while leaving the `def` unexposed satisfies `reuse` only by turning `api-design` red, so I am showing the contradiction rather than moving the redness around.

---

**Bullet 1 (factor the isolation/discreteness/finiteness triple with `Fredholm/LevelSet.lean`) — contested on two grounds.**

1. *The common content is already factored — into Mathlib, and both sites call it directly.* The "same proofs" the finding points at are single applications of library lemmas, not a shared derivation waiting to be extracted:
   * isolation: `LevelSet.lean:521` is `hf.eventually_ne (f'.antilipschitz_of_injective_of_isClosed_range hinj hclosed)`; `Morse.lean` is `hd.eventually_ne ⟨_, e.antilipschitz⟩`. Both are one call of Mathlib's `HasFDerivAt.eventually_ne` (`Mathlib/Analysis/Calculus/FDeriv/Equiv.lean:355`).
   * discreteness: `LevelSet.lean:545` is one call of `discreteTopology_of_noAccPts`; `Morse.lean` is one `rw [isDiscrete_iff_nhdsNE]` (`Mathlib/Topology/DiscreteSubset.lean:53`).
   * finiteness: both are `IsCompact.finite`.

   A new lemma "zeros of a map whose derivative at each zero is antilipschitz are isolated, hence discrete, hence finite when compact" would be a *third* packaging of those same three Mathlib calls. Neither site could use it without an adapter: what differs is not boilerplate but the hypotheses each side actually has. LevelSet quantifies a *given* derivative family `D` over `{x | f x = c} ∩ K` and manufactures the antilipschitz constant from injectivity plus closed range; Morse has no given derivative family at all — the map whose zeros are counted is `fderiv ℝ f`, whose differentiability at the point is the `ContDiffAt ℝ 2` field of `IsNondegenerateCriticalPoint`, and whose antilipschitz constant comes from `ContinuousLinearEquiv.antilipschitz`. And the two finiteness statements are not the same statement: LevelSet *assumes* `IsCompact ({x | f x = c} ∩ K)`, while `finite_setOf_fderiv_eq_zero` *derives* compactness of the critical locus from `ContinuousOn (fderiv ℝ f) K` — the step that carries the actual content there. Neither derivation would become one line; each would become one line *plus* its adapter.

2. *It is a cross-lane refactor of a file this PR does not touch, which the repo asks to ship separately.* `TauCeti/Analysis/Fredholm/LevelSet.lean` belongs to Lane F0 (Fredholm/regular level sets) and is not in this diff; rewriting its three public theorems here would be a prerequisite refactor riding along with new mathematics, which `CLAUDE.md` rules out: "One topic per PR. Ship a prerequisite refactor as its own PR." It would also put the `scope` verdict — green on this same commit, on the grounds that the PR "is a single unit: the Morse file plus the three generic calculus/bilinear modules it imports and uses" — directly at risk.

If a shared zero-set lemma is wanted, it is a good standalone PR: land the lemma, convert both call sites, and let `reuse` judge it on its own merits rather than as a rider on the Morse definitions.

Comment (kim-em) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 generality — request_changes  `claude/claude-opus-5`

The Banach-generality nondegeneracy definition and its consequences sit at the right level, but the discreteness/finiteness pair is stated only for `g = fderiv ℝ f` although its proof uses nothing about derivatives or real-valuedness, and the new general `ContDiffAt.hasFDerivAt_fderiv` is not adopted at the three existing in-repo sites that inline exactly it.

- `TauCeti/Analysis/Calculus/Morse.lean:191` — `HasNondegenerateCriticalPointsOn.isDiscrete_setOf_fderiv_eq_zero` (191) and `.finite_setOf_fderiv_eq_zero` (205) are stated only for the map `fderiv ℝ f`, but their proofs use nothing about second derivatives, about `f` being real-valued, or about `ℝ`: the only analytic input is `HasFDerivAt.eventually_ne` applied to the map whose zero set is in question. This is the general fact 'the zero set of a map that has an invertible (indeed merely antilipschitz) derivative at each of its zeros is discrete, hence finite on a compact set where the map is continuous', under-generalized to one instance. _Fix:_ Prove the general statements for `g : E → F` over a nontrivially normed field in a generic file (next to `SecondDerivative.lean`/`Bilinear.lean`, which the PR already split off for exactly this reason), e.g. `theorem isDiscrete_setOf_eq_zero {g : E → F} {s : Set E} (h : ∀ x ∈ s, g x = 0 → ∃ L : E ≃L[𝕜] F, HasFDerivAt g L x) : IsDiscrete {x ∈ s | g x = 0}` and `theorem IsCompact.finite_setOf_eq_zero (hK : IsCompact K) (hcont : ContinuousOn g K) (h : ...) : {x ∈ K | g x = 0}.Finite`, then derive the two Morse corollaries from them in three lines each via `IsNondegenerateCriticalPoint.eventually_fderiv_ne_zero`.
- `TauCeti/Analysis/Calculus/ParametricFDeriv.lean:137` — `SecondDerivative.lean` states its purpose as making the `ContDiffAt → HasFDerivAt (fderiv 𝕜 g)` identification 'once rather than at each use', but the three existing in-repo copies of that exact one-liner are left inlined, so the general lemma has no user and the special-case derivation is duplicated. _Fix:_ Replace ParametricFDeriv.lean:137-138, 147-148 and 160-161 with `ContDiffAt.hasFDerivAt_fderiv hF le_minSmoothness` (and `.differentiableAt` for line 160); `le_minSmoothness : n ≤ minSmoothness 𝕜 n` supplies the new lemma's `hn : 2 ≤ n`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 324s · 23 in / 24.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...c8be7d697afd8451be6f6d7e2a4c5cdf5157d33a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/generality.md)</sub>

Comment (kim-em) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 documentation — request_changes  `claude/claude-opus-5`

Documentation coverage is complete and the Mathlib/roadmap citations check out, but the quadratic-model section claims a non-vacuity result the conditional theorems do not deliver, and the Bilinear module docstring misstates what the file rests on.

- `TauCeti/Analysis/Calculus/Morse.lean:269` — The `### The quadratic model` section docstring says the statements below "record that the model itself has a nondegenerate critical point, so the definition above is not vacuous". Neither model theorem is an existence statement: `isNondegenerateCriticalPoint_apply_self` assumes `(B.flip + B).IsInvertible` and `..._of_flip_eq_self` assumes `B.IsInvertible`, i.e. exactly a `E ≃L[ℝ] (E →L[ℝ] ℝ)`. On a Banach space not isomorphic to its dual (e.g. `c₀`, whose dual is `ℓ¹`) no such map exists, so `IsNondegenerateCriticalPoint f x` is unsatisfiable there and the hypothesis of the "model" is unsatisfiable too. The docstring promises unconditional non-vacuity that no statement in the file provides. _Fix:_ Either qualify the sentence ("the model has a nondegenerate critical point whenever the polarization is invertible, which in infinite dimensions already requires `E ≃L E*`"), or add an unconditional witness — e.g. the model on `ℝ` with `B = ContinuousLinearMap.mul ℝ ℝ`, or `innerSL` on a Hilbert space — and then keep the non-vacuity claim.
- `TauCeti/Analysis/Calculus/Bilinear.lean:17` — Module docstring asserts the file "depends on nothing beyond the bilinear chain rule `ContinuousLinearMap.hasStrictFDerivAt_of_bilinear`". `contDiff_apply_self` — the first main result — uses `IsBoundedBilinearMap.contDiff` and `ContDiff.comp₂` instead, which is why the file imports `Mathlib.Analysis.Calculus.ContDiff.Comp`. _Fix:_ Name both dependencies, e.g. "…beyond `IsBoundedBilinearMap.contDiff` and the bilinear chain rule `ContinuousLinearMap.hasStrictFDerivAt_of_bilinear`".

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 340s · 50 in / 26k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...c8be7d697afd8451be6f6d7e2a4c5cdf5157d33a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/documentation.md)</sub>

Comment (kim-em) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 proof-quality — request_changes  `claude/claude-opus-5`

Proofs are short, use robust automation, and avoid `change`/`show` and defeq tricks. One defect: the finite-dimensional "injective continuous map into the dual is invertible" argument, including the `finrank ℝ E = finrank ℝ (E →L[ℝ] ℝ)` step, is inlined in `isNondegenerateCriticalPoint_iff_separatingLeft` instead of being a standalone lemma.

- `TauCeti/Analysis/Calculus/Morse.lean:163` — Lines 163-170 of `isNondegenerateCriticalPoint_iff_separatingLeft` prove, inline, two general facts that have nothing to do with critical points: `finrank ℝ E = finrank ℝ (E →L[ℝ] ℝ)` (hrank), and that an injective continuous linear map from a finite-dimensional `E` into its continuous dual is `IsInvertible`. Both are hidden inside a Morse statement and unavailable to any later user (charts, the Morse lemma, the index), and the PR itself already established the convention of extracting such steps — `TauCeti/Topology/Algebra/Module/BilinearForm.lean` exists precisely for the neighbouring `SeparatingLeft ↔ Injective` step, with a docstring justifying that split. _Fix:_ Move both out: state e.g. `finrank 𝕜 (E →L[𝕜] 𝕜) = finrank 𝕜 E` and `ContinuousLinearMap.isInvertible_of_injective` (finite-dimensional domain/codomain of equal `finrank`, or the dual-valued special case) in a generic file next to `separatingLeft_toBilinForm_iff_injective`, and let the finite-dimensional direction here be `(...).isInvertible_of_injective hinj`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 360s · 22 in / 30.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...c8be7d697afd8451be6f6d7e2a4c5cdf5157d33a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/proof-quality.md)</sub>

Comment (kim-em) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `c8be7d6`; the finding stands — The new material is not duplicated from Mathlib, but the PR adds TauCeti.ContDiffAt.hasFDerivAt_fderiv while leaving three verbatim copies of its proof term in TauCeti/Analysis/Calculus/ParametricFDeriv.lean, and the discreteness/finiteness half of the Morse chain restates the package already in TauCeti/Analysis/Fredholm/LevelSet.lean for the same set shape.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3760964853.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Fixed at this head, with one correction to the suggested proof.

`TauCeti.eventually_fderiv_ne` is now stated exactly as you proposed — `{c : E →L[ℝ] ℝ} (hf : ContDiffAt ℝ 2 f x) (hinv : (fderiv ℝ (fderiv ℝ f) x).IsInvertible) : ∀ᶠ y in 𝓝[≠] x, fderiv ℝ f y ≠ c` — and `IsNondegenerateCriticalPoint.eventually_fderiv_ne_zero` is now the one-line corollary `eventually_fderiv_ne h.contDiffAt h.isInvertible`, so the unused `h.fderiv_eq_zero` is gone and the downstream discreteness/finiteness statements are unchanged.

The one thing that could not be kept is "with the same proof body". `HasFDerivAt.eventually_ne` (`Mathlib/Analysis/Calculus/FDeriv/Equiv.lean:355`) concludes `∀ᶠ z in 𝓝[≠] x, f z ≠ f x` — it separates the value *at `x`*, not an arbitrary `c`, and it is not local injectivity of `fderiv ℝ f` (differentiability at the single point `x` with invertible derivative there gives `‖g y - g x‖ ≥ (c/2)‖y - x‖` near `x`, which says nothing about two nearby points other than `x`). The general `c` is still true, but for two reasons, so the proof splits:

```lean
  rcases eq_or_ne (fderiv ℝ f x) c with rfl | hne
  · exact hd.eventually_ne ⟨_, e.antilipschitz⟩
  · exact (hd.continuousAt.eventually_ne hne).filter_mono nhdsWithin_le_nhds
```

with a comment at each branch recording which fact is doing the work. `lake build` and `lake exe axioms` are green.

Comment (kim-em) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `c8be7d6`; this clears the finding ✅ — approved on `c8be7d6`.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3759769731.</sub>

[the remark this answers is not in the document]
Comment (kim-em) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `generality` —** re-reviewed on `c8be7d6`; the finding stands — The Banach-generality nondegeneracy definition and its consequences sit at the right level, but the discreteness/finiteness pair is stated only for `g = fderiv ℝ f` although its proof uses nothing about derivatives or real-valuedness, and the new general `ContDiffAt.hasFDerivAt_fderiv` is not adopted at the three existing in-repo sites that inline exactly it.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3760619018.</sub>

[the remark this answers is not in the document]
Comment (kim-em) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `naming` —** re-reviewed on `c8be7d6`; this clears the finding ✅ — approved on `c8be7d6`.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3760623412.</sub>

[the remark this answers is not in the document]
Comment (kim-em) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `c8be7d6`; the finding stands — Documentation coverage is complete and the Mathlib/roadmap citations check out, but the quadratic-model section claims a non-vacuity result the conditional theorems do not deliver, and the Bilinear module docstring misstates what the file rests on.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3760621702.</sub>

Comment (kim-em) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `c8be7d6`; the finding stands — Proofs are short, use robust automation, and avoid `change`/`show` and defeq tricks. One defect: the finite-dimensional "injective continuous map into the dual is invertible" argument, including the `finrank ℝ E = finrank ℝ (E →L[ℝ] ℝ)` step, is inlined in `isNondegenerateCriticalPoint_iff_separatingLeft` instead of being a standalone lemma.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3760617523.</sub>

Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `7306255`; this clears the finding ✅ — approved on `7306255`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3776788974.</sub>

Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `generality` —** re-reviewed on `7306255`; the finding stands — One calculus result remains unnecessarily specialized to real-valued functions despite using no Morse-specific structure.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3776799120.</sub>

Comment (CBirkbeck) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### ✅ placement — now passing on `ed17d29`.

Comment (kim-em) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 naming — request_changes  `codex/gpt-5.6-sol`

One newly introduced theorem uses Mathlib’s deprecated `finite_setOf_` naming form instead of the current canonical `finite_setOfPred_` form.

- `TauCeti/Analysis/Calculus/Morse.lean:196` — `HasNondegenerateCriticalPointsOn.finite_setOf_fderiv_eq_zero` uses the obsolete name shape for finiteness of a set-builder predicate. _Fix:_ Rename it to `HasNondegenerateCriticalPointsOn.finite_setOfPred_fderiv_eq_zero` and update internal references.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 67s · 293.2k in / 1.8k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...b075606e24aa5d0265b2cc23632bc10c604e99d3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/naming.md)</sub>

Comment (kim-em) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `b075606`; this clears the finding ✅ — approved on `b075606`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3776788974.</sub>

[the remark this answers is not in the document]
Comment (kim-em) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `generality` —** re-reviewed on `b075606`; this clears the finding ✅ — approved on `b075606`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3776799120.</sub>

Comment (raresbuhai) [inline TauCeti/Analysis/Calculus/Morse.lean:1]: ### 🟡 reuse — request_changes  `codex/gpt-5.6-sol`

One public theorem is only a definitional restatement and unnecessarily duplicates the predicate itself.

- `TauCeti/Analysis/Calculus/Morse.lean:138` — `hasNondegenerateCriticalPointsOn_iff` is a public compatibility-style wrapper whose statement is exactly the definition of `HasNondegenerateCriticalPointsOn` (`Iff.rfl`), creating a second API for the same proposition. _Fix:_ Delete the theorem and use `HasNondegenerateCriticalPointsOn` directly; consumers needing the quantified form can `unfold HasNondegenerateCriticalPointsOn` or use `change`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 54s · 152.2k in / 1.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...3edeec526c854ea8650d490a7cdc2639866a6bb3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/reuse.md)</sub>

File: TauCeti/Topology/Algebra/Module/BilinearForm.lean
Comment (raresbuhai) [inline TauCeti/Topology/Algebra/Module/BilinearForm.lean:1]: ### 🟡 placement — request_changes  `codex/gpt-5.6-sol`

The new bilinear-form API is placed outside the repository's existing canonical bilinear-form directory.

- `TauCeti/Topology/Algebra/Module/BilinearForm.lean:41` — The two declarations about `toBilinForm`, separation, and dual-space nondegeneracy are bilinear-form API, but this file creates a lone `Topology/Algebra/Module/BilinearForm` module despite the established `TauCeti/LinearAlgebra/BilinearForm/` topic directory. _Fix:_ Move the file into `TauCeti/LinearAlgebra/BilinearForm/` (for example `ContinuousLinearMap.lean`) and update `Morse.lean` to import the new canonical path, deleting the old module path.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 39s · 126.6k in / 1.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...3edeec526c854ea8650d490a7cdc2639866a6bb3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/placement.md)</sub>

File: TauCeti/Analysis/Calculus/SecondDerivative.lean
Comment (raresbuhai) [inline TauCeti/Analysis/Calculus/SecondDerivative.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

The documentation overstates the fixed-value avoidance theorem as a local-injectivity result.

- `TauCeti/Analysis/Calculus/SecondDerivative.lean:19` — The module text, main-results entry (lines 34–35), and theorem docstring (lines 57–60) say `eventually_fderiv_ne` proves the differential takes every value at most once nearby, but its statement only gives punctured-neighborhood avoidance for one fixed `c`, with the neighborhood allowed to depend on `c`. _Fix:_ Reword all three passages to describe fixed-value avoidance, or strengthen the declaration to state local injectivity explicitly.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 34s · 87.3k in / 1.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...3edeec526c854ea8650d490a7cdc2639866a6bb3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/documentation.md)</sub>

**Comment by raresbuhai** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new definitions and theorems faithfully formalize strong nondegeneracy, isolation, compact-locus finiteness, coordinate invariance, and the quadratic model; no semantic correctness defect was found. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/reuse.md) | changes requested | `codex/gpt-5.6-sol` | One public theorem is only a definitional restatement and unnecessarily duplicates the predicate itself. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR coherently opens Lane M’s dynamical Morse-homology route: nondegenerate critical points, isolation, compact-locus finiteness, coordinate invariance, and their generic calculus support are direct prerequisites for the roadmap’s Morse functions and Morse complex. The roadmap explicitly permits Lane M to start immediately, and the small ParametricFDeriv reuse remains part of the same second-derivative infrastructure topic. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module credits the central informal sources for both finite-dimensional and Banach/Hilbert Morse theory, cites the roadmap target, and identifies the Mathlib declarations underlying its derivative formulation. No uncredited vendored or closely adapted formalization was found. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical public surface is appropriately scoped and provides the characteristic definitions, elimination rules, coordinate invariance, isolation/finiteness results, and derivative APIs needed by later Morse-theory work. The exposed helper results are independently reusable, and the normalization lemmas carry suitable simp annotations. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations are stated at natural levels: generic calculus results are separated from the real-valued Morse API, and specialized quadratic and symmetric cases are derived from the general results. No materially unused or unnecessarily strong assumptions were found. |
| 🟡 | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/placement.md) | changes requested | `codex/gpt-5.6-sol` | The new bilinear-form API is placed outside the repository's existing canonical bilinear-form directory. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | Introduced names describe their conclusions in standard Mathlib terminology, and no new notation is introduced. |
| 🟡 | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/documentation.md) | changes requested | `codex/gpt-5.6-sol` | The documentation overstates the fixed-value avoidance theorem as a local-injectivity result. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise and structured around stable calculus APIs, with comments explaining the nontrivial coordinate-change argument. No undocumented definitional-equality manipulation, brittle rewrite chains, or unfactored substantial reasoning warrants changes. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/dabf6a40d6801d22c3ff53eed7ba507573c1b4df...3edeec526c854ea8650d490a7cdc2639866a6bb3) at head `3edeec5`. rubrics @ [`a66b04d`](https://github.com/TauCetiProject/TauCetiReview/tree/a66b04d97721565b13c8abe07f750fb1d2959ad5/rubrics). Review spend: $2.17.</sub>

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (raresbuhai) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `correctness` —** re-reviewed on `3edeec5`; this clears the finding ✅ — approved on `3edeec5`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755374484.</sub>

Comment (raresbuhai) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `3edeec5`; the finding stands — One public theorem is only a definitional restatement and unnecessarily duplicates the predicate itself.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3776788974.</sub>

Comment (raresbuhai) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `3edeec5`; this clears the finding ✅ — approved on `3edeec5`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3759769731.</sub>

[the remark this answers is not in the document]
Comment (raresbuhai) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `generality` —** re-reviewed on `3edeec5`; this clears the finding ✅ — approved on `3edeec5`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3776799120.</sub>

[the remark this answers is not in the document]
Comment (raresbuhai) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `naming` —** re-reviewed on `3edeec5`; this clears the finding ✅ — approved on `3edeec5`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760623412.</sub>

[the remark this answers is not in the document]
Comment (raresbuhai) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `3edeec5`; the finding stands — The documentation overstates the fixed-value avoidance theorem as a local-injectivity result.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760621702.</sub>

Comment (raresbuhai) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `3edeec5`; this clears the finding ✅ — approved on `3edeec5`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3760617523.</sub>

Comment (brettkoonce) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: Contesting this finding: the suggested fix is not available to consumers, and the same rubric approved this declaration one round ago for exactly that reason.

**1. `unfold` / `change` do not work downstream — the body is not exposed.** This repository uses the Lean module system, and `HasNondegenerateCriticalPointsOn` is a plain `def` in a `public section`, so its *signature* is public but its *body* is not. I checked this empirically by adding a scratch module importing `TauCeti.Analysis.Calculus.Morse` and trying both routes the finding proposes:

```lean
module
public import TauCeti.Analysis.Calculus.Morse
public section
namespace TauCeti
variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] {f : E → ℝ} {s : Set E}

example : HasNondegenerateCriticalPointsOn f s ↔
    ∀ ⦃x⦄, x ∈ s → fderiv ℝ f x = 0 → IsNondegenerateCriticalPoint f x := Iff.rfl

example (h : HasNondegenerateCriticalPointsOn f s) {x : E} (hx : x ∈ s)
    (h0 : fderiv ℝ f x = 0) : IsNondegenerateCriticalPoint f x := by
  unfold HasNondegenerateCriticalPointsOn at h
  exact h hx h0
```

Both fail:

```
error: Type mismatch
  Iff.rfl
has type
  ?m.25 ↔ ?m.25
but is expected to have type
  HasNondegenerateCriticalPointsOn f s ↔ ∀ ⦃x : E⦄, x ∈ s → fderiv ℝ f x = 0 → IsNondegenerateCriticalPoint f x

Note: The following definitions were not unfolded because their definition is not exposed:
  HasNondegenerateCriticalPointsOn ↦ 3

error: Tactic `unfold` failed to unfold `HasNondegenerateCriticalPointsOn` in
  HasNondegenerateCriticalPointsOn f s
```

So `hasNondegenerateCriticalPointsOn_iff` is not a second API for the same proposition: it is the *only* intro/elim rule the predicate has outside its defining file. Delete it and no downstream module can either build a `HasNondegenerateCriticalPointsOn` or consume one — the two theorems the PR exists to prove (`.isDiscrete_setOfPred_fderiv_eq_zero`, `.finite_setOfPred_fderiv_eq_zero`) become unusable, since nothing can produce their hypothesis. That is why the statement is `Iff.rfl` *inside* this file and not provable outside it; a `Prop`-valued `def` with an unexposed body is precisely the case where Mathlib records the characterization as a lemma.

**2. This rubric approved the declaration one round ago, on this ground.** At head `e6c6607` `reuse` (same judge, `codex/gpt-5.6-sol`) approved with: *"The contested `_iff` is necessary for the unexposed predicate, and the analogous Fredholm results have materially different hypotheses rather than forming a direct duplicate."* The only commit between that approval and this round is `3edeec5` ("use Mathlib's current `setOfPred` name component"), which renames two theorem name components in `Morse.lean` and does not touch `hasNondegenerateCriticalPointsOn_iff`, `HasNondegenerateCriticalPointsOn`, or their exposure.

**3. It would also regress the `api-design` rubric, which required this declaration.** `api-design` requested changes on an earlier head precisely because the predicate had no bridge, and recorded the fix as: *"the renamed `HasNondegenerateCriticalPointsOn` now has the `Iff.rfl` intro/elim bridge `hasNondegenerateCriticalPointsOn_iff`, so its exported theorems are constructible and applicable downstream without an exposed body."* Deleting it re-opens that finding verbatim, so the two cannot both be satisfied; the difference between them is that the `api-design` requirement is the one the compiler agrees with, as the transcript above shows.

The declaration also carries a docstring explaining why it is deliberately not `@[simp]`, so it is not a silently-added convenience wrapper.

Verified at head `ed17d29`: `lake build` → "Build completed successfully (7734 jobs)."; `lake exe axioms` → "audited 43691 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound]."

File: TauCeti/Topology/Algebra/Module/BilinearForm.lean
Comment (brettkoonce) [reply TauCeti/Topology/Algebra/Module/BilinearForm.lean:1]: Contesting this finding: `TauCeti/LinearAlgebra/BilinearForm/` is not the canonical home for these two declarations, and moving them there would put normed-space analysis under a purely algebraic topic directory.

**1. The file already sits next to what it elaborates.** The rubric asks for "the file whose topic, level, and dependencies fit it, near the definition or result it elaborates". Both objects the file is about live under `Mathlib/Topology/Algebra/Module/`:

- `ContinuousLinearMap.toBilinForm` — `Mathlib/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean`
- `ContinuousLinearMap.IsInvertible` — `Mathlib/Topology/Algebra/Module/Equiv.lean:1062`

`TauCeti/Topology/Algebra/Module/BilinearForm.lean` mirrors that directory exactly. Neither declaration mentions `LinearMap.BilinForm` as its subject: `separatingLeft_toBilinForm_iff_injective` converts *from* the continuous-linear-map presentation, and `isInvertible_of_injective` does not mention bilinear forms at all — its conclusion is `ContinuousLinearMap.IsInvertible`.

**2. `TauCeti/LinearAlgebra/BilinearForm/` is the wrong *level*, which the same rubric bullet forbids.** That directory mirrors `Mathlib/LinearAlgebra/BilinearForm/`, whose subject is `LinearMap.BilinForm` over a commutative ring, with no topology anywhere. All five existing files there are purely algebraic — their entire import surface is:

```
Basic.lean          Mathlib.LinearAlgebra.BilinearForm.Properties, Mathlib.Tactic.LinearCombination
ExteriorSquare.lean Mathlib.Algebra.Lie.SkewAdjoint, Mathlib.LinearAlgebra.ExteriorPower.Basis, …
Multilinear.lean    Mathlib.LinearAlgebra.{Alternating.Basic, BilinearForm.Properties, Multilinear.Basic}, …
Orthogonal.lean     Mathlib.LinearAlgebra.BilinearForm.Orthogonal
Squares.lean        Mathlib.LinearAlgebra.{ExteriorPower.Basic, TensorPower.Symmetric}, …
```

The file under discussion needs `[TopologicalSpace E]` throughout, and `isInvertible_of_injective` additionally needs `[NontriviallyNormedField 𝕜] [CompleteSpace 𝕜] [NormedAddCommGroup E] [NormedSpace 𝕜 E] [FiniteDimensional 𝕜 E]` and imports `Mathlib.Analysis.Normed.Module.FiniteDimension`. Moving it would make `TauCeti/LinearAlgebra/BilinearForm/` the only place in that tree carrying an analysis dependency; Mathlib keeps `Mathlib/LinearAlgebra/BilinearForm/` free of `Mathlib.Analysis` imports for the same layering reason. A downstream reader looking for facts about `toBilinForm` of a *continuous* linear map would not look under `LinearAlgebra/`.

**3. `placement` reviewed this file in this location twice and did not object.** At head `e6c6607` this rubric (same judge, `codex/gpt-5.6-sol`) reviewed the full diff against `dabf6a40` — which contains `TauCeti/Topology/Algebra/Module/BilinearForm.lean` with both declarations, at this path — and raised only the redundant-import finding on `Morse.lean:7-8`, which `b075606` fixed; the location was likewise unremarked when this rubric approved at `f917faf`. The only commit between that review and this one is `3edeec5`, which renames two theorem name components in `Morse.lean` and does not touch this file at all.

**4. The `Topology/Algebra/Module/` directory is not "lone" in a way the rubric penalizes.** The directory-splitting bullet concerns two sibling files sharing a leading CamelCase component in one directory (`Foo.lean` next to `FooBar.lean`); there is no such sibling here. `TauCeti/Topology/Algebra/` is an established directory, and adding the `Module/` level under it is what mirrors Mathlib.

If the preference is for a still closer mirror I am happy to rename the file to `TauCeti/Topology/Algebra/Module/Spaces/ContinuousLinearMap.lean`, matching the Mathlib module that defines `toBilinForm` — but `TauCeti/LinearAlgebra/BilinearForm/` would place normed-space, finite-dimensional analysis in the linear-algebra layer.

File: TauCeti/Analysis/Calculus/Morse.lean
Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `ed17d29`; this clears the finding ✅ — approved on `ed17d29`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3778764940.</sub>

Comment (CBirkbeck) [reply TauCeti/Analysis/Calculus/Morse.lean:1]: **Re: your reply on `placement` —** re-reviewed on `ed17d29`; this clears the finding ✅ — approved on `ed17d29`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3778767593.</sub>
